2168-11-16 06:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2168-11-16**] 01:21 AM
 ARTERIAL LINE - START [**2168-11-16**] 03:21 AM
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2168-11-16**] 05:39 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-11-16**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 78 (77 - 90) bpm
   BP: 87/51(60) {85/51(59) - 140/69(87)} mmHg
   RR: 14 (14 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 9 (9 - 18)mmHg
   Total In:
                                                                    551 mL
   PO:
   TF:
   IVF:
                                                                    201 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    360 mL
   Urine:
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    191 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   RR (Set): 14
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 32 cmH2O
   Plateau: 22 cmH2O
   Compliance: 38.2 cmH2O/mL
   SpO2: 99%
   ABG: 7.57/36/106/31/11
   Ve: 11.1 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General Appearance: Overweight / Obese. RSCVL in place, ETT and NGT in
   place.
   Eyes / Conjunctiva: pupils about 3mm symmetric and sluggish but
   reactive, Sclera edema, anicteric
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic [**3-10**] heard
   best at USB)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Mild
   Crackles : , expiratory Wheezes  and course breath sounds bilaterally:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese, umbilical
   hernia -reducible
   Extremities: Right: Trace edema , Left: Trace edema. Bilateral UE
   tremor and cog wheel rigidity.
   Skin:  Warm, No(t) Jaundice
   Neurologic: opens eyes to voice but not following commands, moving all
   extremities. Toes downgoing.
   Labs / Radiology
   274 K/uL
   7.3 g/dL
   105 mg/dL
   2.1 mg/dL
   31 mEq/L
   3.2 mEq/L
   38 mg/dL
   99 mEq/L
   140 mEq/L
   22.9 %
   7.8 K/uL
        [image002.jpg]
                            [**2168-11-16**]  01:52 AM
                            [**2168-11-16**]  03:52 AM
   WBC
   7.8
   Hct
   22.9
   Plt
   274
   Cr
   2.1
   TropT
   0.05
   TCO2
   34
   Glucose
   105
   Other labs: PT / PTT / INR:18.0/49.1/1.6, CK / CKMB /
   Troponin-T:26//0.05, ALT / AST:10/42, Alk Phos / T Bili:91/0.7,
   Differential-Neuts:83.6 %, Lymph:11.5 %, Mono:3.4 %, Eos:1.4 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.7 g/dL, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
   66 yo M with PMH of DM2, CRI, recent subdural hematomas and bacteremia
   who presents from rehab with altered mental status and fevers.
   # fevers: There are numerous possibilities for infectious sources. He
   had Strep Bovis bacteremia in [**Month (only) **] and MRSA and enterococcus bacteremia
   in [**Month (only) 1854**]. He finished a course of vancomycin the day prior to
   presentation. He could be insufficiently treated for this. In addition,
   he was started on levofloxacin a few days prior to admission for a UTI.
   His urinalysis does not suggest infection currently but he has been on
   antibiotics.  Given the imaging studies, he does appear to have an
   infiltrate in the right lung field which could be his infectious
   source. Given his history, concern for bacteremia, endocarditis,
   urosepsis if antibiotic was not sensitive, infected subdural hematomas,
   influenza or pneumonia.  CT scan of abdomen/pelvis does not show
   obvious infectious source.
   -continue vancomycin for broad coverage for MRSA given recent
   bacteremia and meropenem for gram negatives and pseudomonal coverage
   given recent UTI and for hospital associated pneumonia. (he has allergy
   to penicillins)
   -TEE to evaluate for persistent endocarditis
   -follow up blood and urine cultures
   -send nasal aspirate for influenza
   -send sputum culture
   -monitor fever curve
   -follow up final imaging reads
   -pleural effusions do not seem large enough for thoracentesis at this
   time and do not appear loculated.
   # hypotension: He is off of pressors with good blood pressures. A line
   pressure is much higher than cuff pressure, so unclear if he was really
   hypotensive in the ED for long. Lactate is and was normal so likely was
   not hypotensive for long.
   -monitor BP
   # pericardial effusion: He does not have tamponade physiology. He is
   off of pressors with good blood pressures. A line pressure is much
   higher than cuff pressure, so unclear if he was really hypotensive in
   the ED for long. Lactate was normal. No change in his aline tracing or
   CVP with respirations. No pulses.
   -check ECHO
   # altered mental status: likely secondary to infection. Also concern
   for worsening subdural hematomas given recent diagnosis. Head CT
   imaging prelim read does not suggest worsening bleed.
   -use limited sedation
   -daily wake up trials while intubated to assess mental status
   -follow up final CT imaging read
   # respiratory status: intubated for airway protection. Does appear to
   have pneumonia but oxygenating well. Has a respiratory alkylosis as his
   PaCO2 is likely lower than his baseline.
   -resend gas and change to pressure support as tolerated to allow him to
   ventilate at his own rate.
   -h/o chronic CO2 retention so keep oxygen sats around 90-92 percent.
   -nebs prn given h/o RAD.
   # h/o subdural hematomas: no acute process on head CT here, but will
   follow up final read. Neuro exam is limited given sedation but appear
   non-focal.
   # aortic stenosis: valve area reportedly 0.9cm^2. When heading towards
   extubation, will also need to be careful with fluid shifts
   # anemia: chronic for the last few months since his illness began.
   Likely related to chronic illness and iron deficiency (one report of
   colonic polyps removed). Currently at baseline since transfusion a few
   days ago.
   -monitor HCT
   -given CAD, AS and other illness, consider transfusion for HCT less
   than 25.
   # chronic renal insufficiency stage 4: Cr at his baseline over the last
   few months.
   -continue calcitriol
   -renally dose medications
   -monitor Cr
   # CAD: continue asa, statin. Hold BB and [**Last Name (un) **] for now as above.
   # DM2: hold oral agents and check finger sticks and use insulin sliding
   care.
   # hypothyroidism: continue levothyroxine
   # HTN: holding losartan and metoprolol for now. Will add back as
   needed.
   # Parkinsons Disease: continue sinemet and requip.
   # FEN: NPO for now. If not extubated later today, will need to start
   diabetic tube feeds. IVF. replete lytes
   # PPX: heparin SQ for DVT ppx, PPI per home regimen, bowel regimen,
   aspiration, fall, droplet (until influenza ruled out) and MRSA
   precautions.
   # code status: full confirmed with wife
   # Access: right subclavian placed [**2168-11-15**]; right a line placed
   [**2168-11-15**]. PIV on left.
   # Comm: wife [**Name (NI) 625**] [**Telephone/Fax (1) 2577**] (H); [**Telephone/Fax (1) 2578**] (C)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-11-16**] 01:21 AM
   22 Gauge - [**2168-11-16**] 01:24 AM
   Arterial Line - [**2168-11-16**] 03:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-11-16 09:58:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Altered Mental Status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2168-11-16**] 01:21 AM
 ARTERIAL LINE - START [**2168-11-16**] 03:21 AM
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2168-11-16**] 05:39 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-11-16**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 81 (77 - 90) bpm
   BP: 95/49(63) {95/49(63) - 95/49(64)} mmHg
   RR: 14 (14 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 9 (9 - 18)mmHg
   Total In:
                                                                    682 mL
   PO:
   TF:
   IVF:
                                                                    252 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    480 mL
   Urine:
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    202 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 650) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 34 cmH2O
   Plateau: 23 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.49/44/94.[**Numeric Identifier 299**]/31/9
   Ve: 8.5 L/min
   PaO2 / FiO2: 235
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Umbilical Hernia
   noted--reducible
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Paralyzed, Tone: Not assessed, Tremor, cogwheel rigidity
   Labs / Radiology
   7.3 g/dL
   274 K/uL
   105 mg/dL
   2.1 mg/dL
   31 mEq/L
   4.1 mEq/L
   38 mg/dL
   99 mEq/L
   140 mEq/L
   22.9 %
   7.8 K/uL
        [image002.jpg]
                            [**2168-11-16**]  01:52 AM
                            [**2168-11-16**]  03:52 AM
                            [**2168-11-16**]  07:37 AM
   WBC
   7.8
   Hct
   22.9
   Plt
   274
   Cr
   2.1
   TropT
   0.05
   TCO2
   34
   34
   Glucose
   105
   Other labs: PT / PTT / INR:18.0/49.1/1.6, CK / CKMB /
   Troponin-T:26//0.05, ALT / AST:10/42, Alk Phos / T Bili:91/0.7,
   Differential-Neuts:83.6 %, Lymph:11.5 %, Mono:3.4 %, Eos:1.4 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.7 g/dL, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.3 mg/dL
   Fluid analysis / Other labs: 7.49/44/382-->then
   7.57/36/106-->Then
   7.49/44/94
   Lactate=1.0 only
   Imaging: CT--
   Pericardial Effusion
   Plural Effusion
   Pulmonary Infiltrate
   No CNS lesion noted
   No abdominal lesion noted
   ECG: Nl Axis, V2=T-wave inversion but no ST segment elevations
   Assessment and Plan
   66 yo male admit with altered mental status and respiratory failure.
   He has recent history notable to endocarditis (6 weeks of treatment)
   and enterococcus and MRSA found on PICC after completion of CTX
   treatment for endocarditis.  Patient finished Vanco for line sepsis on
   [**2168-11-14**].  He then had confusion and delirium evolve over three days
   and was sent to ED here for eval where fever, tachypnea noted.  He then
   evolved hypotension in the ED and Right SCL was placed and
   1)Respiratory Failure-Patient with compliance=40 and Resistance=9
   consistent with minimal new acute pulmonary insult
   -In the setting of altered mental status and need for further imaging
   patient was intubated.
   -He has baseline CO2 level of 50-55 likely based upon initial ABG's
   -Atovent/Albuterol
   -Move to PSV wean this morning
   -Move to extubation with procedures completed.
   2)Sepsis-
   -Concern for pulmonary source with effusion suggested on CT scan of
   chest.  He does have past history of endocarditis certainly and line
   sepsis so metastatic source is certainly possible.
   -Has been able to maintain SBP >100 on A-line trace and off pressors
   following 3 liters of IVF
   -Interestingly patient has no bands and minimal lactate elevation
   -Vanco/Meropenem
   -TEE to eval for endocarditis
   -Check for influenza
   -Sputum cultures
   -Pleural thickening is present and small effusion is noted as change in
   right sided lung volumes is significant and concern for possible
   mestastatic focus.
   2.5)Pericardial Effusion-
   --Echo today to eval for extent of effusion and possible valve
   abnormalities with TEE
   3)Acute Renal Failure-He does have elevation over baseline creatinine
   and this may be a combination of inadequate perfusion in the setting of
   acute infection resulting in ATN
   3)Altered Mental Status-
   -This is in the setting of parkinson's disease and likely acute
   infectious insults
   -Continue Ropinorole and Sinemet for Parkinson's Disease
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-11-16**] 01:21 AM
   22 Gauge - [**2168-11-16**] 01:24 AM
   Arterial Line - [**2168-11-16**] 03:21 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2168-11-17 05:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
     * seen by ID, meropenam approved
     * ordered head MRI per ID req - r/o infarction/septic emboli
     * Pleural effusion tapped by IP - exudate, pmns, no organisms by gram
       stain
     * head CT - no ICH
     * TEE ordered for tomorrow
     * need OSH echo results/culture sensitivity/specifics
     * need to order B/L UE US to r/o thrombophlebitis
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2168-11-17**] 01:48 AM
   Meropenem - [**2168-11-17**] 04:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-11-16**] 10:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-11-17**] 05:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 81 (70 - 89) bpm
   BP: 111/57(75) {95/46(63) - 120/67(88)} mmHg
   RR: 19 (14 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 4 (3 - 11)mmHg
   Total In:
                                                                  1,381 mL
                                                                    401 mL
   PO:
   TF:
   IVF:
                                                                    651 mL
                                                                    371 mL
   Blood products:
   Total out:
                                                                  1,105 mL
                                                                    360 mL
   Urine:
                                                                  1,105 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    276 mL
                                                                     41 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 650) mL
   Vt (Spontaneous): 437 (410 - 523) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 16 cmH2O
   Plateau: 23 cmH2O
   SpO2: 99%
   ABG: 7.34/54/127/33/2
   Ve: 9.3 L/min
   PaO2 / FiO2: 318
   Physical Examination
   General Appearance: Overweight / Obese. RSCVL in place, ETT and NGT in
   place.
   Eyes / Conjunctiva: pupils about 3mm symmetric and sluggish but
   reactive, Sclera edema, anicteric
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: normal s1/s2, 3/6 systolic ejection murmur best heard
   at the base
   Peripheral Vascular: 2+ pulses DP/PT, radial
   Respiratory / Chest: expiratory wheezes, course breath sounds
   bilaterally with some crackles
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese, umbilical
   hernia -reducible
   Extremities: Right: Trace edema , Left: Trace edema. Bilateral UE
   tremor and cog wheel rigidity.
   Skin:  Warm, no jaundice
   Neurologic: opens eyes to voice but not following commands, moving all
   extremities. Toes downgoing.
   Labs / Radiology
   242 K/uL
   7.2 g/dL
   103 mg/dL
   1.8 mg/dL
   33 mEq/L
   4.1 mEq/L
   34 mg/dL
   103 mEq/L
   143 mEq/L
   22.9 %
   6.9 K/uL
        [image002.jpg]
                            [**2168-11-16**]  01:52 AM
                            [**2168-11-16**]  03:52 AM
                            [**2168-11-16**]  07:37 AM
                            [**2168-11-16**]  11:01 AM
                            [**2168-11-16**]  06:11 PM
                            [**2168-11-17**]  03:00 AM
                            [**2168-11-17**]  03:03 AM
                            [**2168-11-17**]  05:14 AM
   WBC
   7.8
   6.9
   Hct
   22.9
   22.9
   Plt
   274
   242
   Cr
   2.1
   1.8
   TropT
   0.05
   TCO2
   34
   34
   36
   34
   34
   30
   Glucose
   105
   103
   Other labs: PT / PTT / INR:16.9/43.6/1.5, CK / CKMB /
   Troponin-T:26//0.05, ALT / AST:10/42, Alk Phos / T Bili:91/0.7,
   Differential-Neuts:83.6 %, Lymph:11.5 %, Mono:3.4 %, Eos:1.4 %, Lactic
   Acid:0.7 mmol/L, Albumin:2.7 g/dL, LDH:270 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   66 yo M with PMH of DM2, CRI, recent subdural hematomas and bacteremia
   who presents from rehab with altered mental status and fevers.
   # Fevers: Considering broad differential including bacteremia,
   endocarditis, urosepsis if antibiotic was not sensitive, infected
   subdural hematomas, influenza or pneumonia.  CT scan of abdomen/pelvis
   does not show obvious infectious source.
   -continue vancomycin for broad coverage for MRSA given recent
   bacteremia and meropenem for gram negatives and pseudomonal coverage
   given recent UTI and for hospital associated pneumonia. (he has allergy
   to penicillins)
   -TEE to evaluate for persistent endocarditis
   -follow up blood and urine cultures
   -send nasal aspirate for influenza
   -send sputum culture
   -monitor fever curve
   -consult IP for thoracentesis today
   # hypotension: He is off of pressors with good blood pressures. A line
   pressure is much higher than cuff pressure, so unclear if he was really
   hypotensive in the ED for long. Lactate is and was normal so likely was
   not hypotensive for long.
   -monitor BP
   # pericardial effusion: He does not have tamponade physiology. He is
   off of pressors with good blood pressures. A line pressure is much
   higher than cuff pressure, so unclear if he was really hypotensive in
   the ED for long. Lactate was normal. No change in his aline tracing or
   CVP with respirations. No pulses.
   -check ECHO
   # altered mental status: likely secondary to infection. Also concern
   for worsening subdural hematomas given recent diagnosis. Head CT
   imaging prelim read does not suggest worsening bleed.
   -use limited sedation
   -daily wake up trials while intubated to assess mental status
   -follow up final CT head imaging read
   # respiratory status: intubated for airway protection. Does appear to
   have pneumonia but oxygenating well. Has a respiratory alkylosis as his
   PaCO2 is likely lower than his baseline.
   -pt now on pressure support, will resend gas this AM to further
   evaluate
   -h/o chronic CO2 retention so keep oxygen sats around 90-92 percent.
   -nebs prn given h/o RAD.
   # h/o subdural hematomas: no acute process on head CT here, but will
   follow up final read. Neuro exam is limited given sedation but appear
   non-focal.
   # aortic stenosis: valve area reportedly 0.9cm^2. When heading towards
   extubation, will also need to be careful with fluid shifts
   # anemia: chronic for the last few months since his illness began.
   Likely related to chronic illness and iron deficiency (one report of
   colonic polyps removed). Currently at baseline since transfusion a few
   days ago.
   -monitor HCT
   -given CAD, AS and other illness, consider transfusion for HCT less
   than 25.
   # chronic renal insufficiency stage 4: Cr at his baseline over the last
   few months.
   -continue calcitriol
   -renally dose medications
   -monitor Cr
   # CAD: continue asa, statin. Hold BB and [**Last Name (un) **] for now as above.
   # DM2: hold oral agents and check finger sticks and use insulin sliding
   care.
   # hypothyroidism: continue levothyroxine
   # HTN: holding losartan and metoprolol for now. Will add back as
   needed.
   # Parkinsons Disease: continue sinemet and requip.
   # FEN: NPO for now. If not extubated later today, will need to start
   diabetic tube feeds. IVF. replete lytes
   # PPX: heparin SQ for DVT ppx, PPI per home regimen, bowel regimen,
   aspiration, fall, droplet (until influenza ruled out) and MRSA
   precautions.
   # code status: full confirmed with wife
   # Access: right subclavian placed [**2168-11-15**]; right a line placed
   [**2168-11-15**]. PIV on left.
   # Comm: wife [**Name (NI) 625**] [**Telephone/Fax (1) 2577**] (H); [**Telephone/Fax (1) 2578**] (C)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-11-16**] 01:21 AM
   Arterial Line - [**2168-11-16**] 03:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-11-17 11:01:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with increased respiratory rate and respiratory distress
   overnight on PSV and returned to A/C support this morning
   TEE Completed this morning--healed vegitaton on AV valve seen with some
   AI and prolapse of aortic valve leaflet seen.
   History obtained from Medical records
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2168-11-17**] 01:48 AM
   Meropenem - [**2168-11-17**] 04:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-11-17**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2168-11-17**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.5
   HR: 79 (70 - 89) bpm
   BP: 117/52(74) {99/46(63) - 134/68(91)} mmHg
   RR: 14 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 11 (3 - 11)mmHg
   Total In:
                                                                  1,381 mL
                                                                    594 mL
   PO:
   TF:
   IVF:
                                                                    651 mL
                                                                    444 mL
   Blood products:
   Total out:
                                                                  1,105 mL
                                                                    520 mL
   Urine:
                                                                  1,105 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    276 mL
                                                                     74 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 437 (410 - 523) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 32 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.34/54/127/33/2
   Ve: 8.7 L/min
   PaO2 / FiO2: 318
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed, Moves LE bilaterally.  He does have limited mobility of
   the lower extremities even when following verbal commands.  No signs of
   neck discomfort.
   Labs / Radiology
   7.2 g/dL
   242 K/uL
   103 mg/dL
   1.8 mg/dL
   33 mEq/L
   4.1 mEq/L
   34 mg/dL
   103 mEq/L
   143 mEq/L
   22.9 %
   6.9 K/uL
        [image002.jpg]
                            [**2168-11-16**]  01:52 AM
                            [**2168-11-16**]  03:52 AM
                            [**2168-11-16**]  07:37 AM
                            [**2168-11-16**]  11:01 AM
                            [**2168-11-16**]  06:11 PM
                            [**2168-11-17**]  03:00 AM
                            [**2168-11-17**]  03:03 AM
                            [**2168-11-17**]  05:14 AM
   WBC
   7.8
   6.9
   Hct
   22.9
   22.9
   Plt
   274
   242
   Cr
   2.1
   1.8
   TropT
   0.05
   TCO2
   34
   34
   36
   34
   34
   30
   Glucose
   105
   103
   Other labs: PT / PTT / INR:16.9/43.6/1.5, CK / CKMB /
   Troponin-T:26//0.05, ALT / AST:10/42, Alk Phos / T Bili:91/0.7,
   Differential-Neuts:83.6 %, Lymph:11.5 %, Mono:3.4 %, Eos:1.4 %, Lactic
   Acid:0.7 mmol/L, Albumin:2.7 g/dL, LDH:270 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR--SCL into RA, ETT good position, right sided effusion has
   recurred and increased in size compared with admission film.
   Assessment and Plan
   66 yo male with complex recent medical history with significant and
   recurrent in blood stream infection now with recurrent fever and
   concern for systemic insult with either residual enterococcal
   endocarditis in the setting of only static action of Vancomycin or
   protected focus of infection in completely cleared by previous
   antibiotic source.  Differential, however is broad.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   -Patient with persistent right sided effusion following tap.
   -He has significant chest wall restriction with obesity and pleural
   disease.
   -Will maintain A/C support through procedures
   -Move to wean as possible following evaluate and treatment for initial
   complaint
 SEPSIS WITHOUT ORGAN DYSFUNCTION
Remaining possibilities are
   endocarditis as patient still have valve abnormality but this does
   appear to be
healed
.  This leaves epidural space infection raised as
   a remote but possible concern and with limited exam capacities will
   pursue MRI of spine as well.
   -Vancomycin/Meropenem
   -MRI head today and would extend to CTL spine given limited exam and
   concern for metastatic focus of infection.
   -LP if head unrevealing and suspicion remains high based upon exam or
   alternative findings.
 ALTERED MENTAL STATUS (NOT DELIRIUM)-_Parkinson's disease and acute
   illness--
   -Continue with dopamine agonists at baseline doses
   -MRI head today
   ACUTE RENAL FAILURE-
   -Improving creatinine
   -Continue to renally dose medications
   -Will have to consider contrast choices with radiology carefully
   Additional issues to be addressed as identified and considered in the
   resident note of this day with which I agree.
   ICU Care
   Nutrition: Will start tube feeds today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2168-11-16**] 01:21 AM
   Arterial Line - [**2168-11-16**] 03:21 AM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2168-11-18 05:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2168-11-17**] 09:00 AM
 ULTRASOUND - At [**2168-11-17**] 10:00 AM
   upper extremities
 MAGNETIC RESONANCE IMAGING - At [**2168-11-17**] 09:30 PM
 INVASIVE VENTILATION - STOP [**2168-11-18**] 01:00 AM
 FEVER - 102.5
F - [**2168-11-18**] 01:00 AM
   -switched to PSV before MRI
   -thick brown secretions
   -pt spiked fever after going to MRI
   -F/u ID recs (continue Vanc, [**Last Name (un) **], get imaging)
   -OSH echo images coming by mail
   -MRI of the head and the entire spinal cord- read still pending
   -Vanco trough drawn at wrong time.
   -final echo report- healed vegetation on aortic leaflet, cannot rule
   out recurrent endocarditis.
   -TF's were held yesterday pending extubation.
   -Maintenance fluids
   -repleted Mg
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2168-11-18**] 02:12 AM
   Meropenem - [**2168-11-18**] 04:03 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-11-18**] 05:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-11-18**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 38.1
C (100.5
   HR: 93 (79 - 106) bpm
   BP: 114/51(71) {83/42(58) - 140/87(100)} mmHg
   RR: 15 (13 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 11 (6 - 12)mmHg
   Total In:
                                                                  1,281 mL
                                                                  1,512 mL
   PO:
   TF:
   IVF:
                                                                    941 mL
                                                                  1,302 mL
   Blood products:
   Total out:
                                                                  1,195 mL
                                                                    395 mL
   Urine:
                                                                  1,195 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     86 mL
                                                                  1,117 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 30 cmH2O
   Plateau: 22 cmH2O
   SpO2: 97%
   ABG: 7.46/47/170/28/9
   Ve: 10.9 L/min
   PaO2 / FiO2: 425
   Physical Examination
   General Appearance: Overweight / Obese. RSCVL in place, ETT and NGT in
   place.  Appeared uncomfortable.
   Eyes / Conjunctiva: pupils about 3mm symmetric and sluggish but
   reactive, Sclera edema, anicteric
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: normal s1/s2, [**3-10**] harsh early systolic  murmur best
   heard at the base
   Peripheral Vascular: 2+ pulses DP/PT, radial
   Respiratory / Chest: course breath sounds bilaterally with some
   crackles
   Abdominal: Soft, appeared mildly tender, but no rebound tenderness.
   Bowel sounds present, Obese, umbilical hernia -reducible
   Extremities: Right: Trace edema , Left: Trace edema. Bilateral UE
   tremor and cog wheel rigidity.
   Skin:  Warm, no jaundice
   Neurologic: follows simple commands.  Attempts to open eyes to voice.
   Labs / Radiology
   245 K/uL
   7.2 g/dL
   116 mg/dL
   1.8 mg/dL
   28 mEq/L
   4.0 mEq/L
   30 mg/dL
   105 mEq/L
   141 mEq/L
   22.1 %
   7.4 K/uL
        [image002.jpg] legionella Ag negative
   Micro- Sputum Gram stain [**11-17**]- GN diplococci
               Sputum prelim culture [**11-16**]- GNR
   Rads-  Upper extremity U/S were negative bilaterally.
   Echo- healed vegetation on aortic leaflet, no evidence of abscess.
   Cannot r/o active infection.  AR and aortic valve prolapse.
                            [**2168-11-16**]  01:52 AM
                            [**2168-11-16**]  03:52 AM
                            [**2168-11-16**]  07:37 AM
                            [**2168-11-16**]  11:01 AM
                            [**2168-11-16**]  06:11 PM
                            [**2168-11-17**]  03:00 AM
                            [**2168-11-17**]  03:03 AM
                            [**2168-11-17**]  05:14 AM
                            [**2168-11-18**]  03:00 AM
                            [**2168-11-18**]  03:24 AM
   WBC
   7.8
   6.9
   7.4
   Hct
   22.9
   22.9
   22.1
   Plt
   274
   242
   245
   Cr
   2.1
   1.8
   1.8
   TropT
   0.05
   TCO2
   34
   34
   36
   34
   34
   30
   34
   Glucose
   105
   103
   116
   Other labs: PT / PTT / INR:17.5/41.1/1.6, CK / CKMB /
   Troponin-T:26//0.05, ALT / AST:10/42, Alk Phos / T Bili:91/0.7,
   Differential-Neuts:83.6 %, Lymph:11.5 %, Mono:3.4 %, Eos:1.4 %, Lactic
   Acid:0.7 mmol/L, Albumin:2.7 g/dL, LDH:270 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   66 yo M with PMH of DM2, CRI, recent subdural hematomas and bacteremia
   who presents from rehab with altered mental status and fevers.
   # Fevers:  Given fevers, positive sputum, and thick secretions,
   pneumonia most likely, with hospital acquired agents at top of list.
   GN diplococci raise concern for Moraxella and Acinetobacter   Still
   cannot r/o endocarditis per imaging, but less likely, and is currently
   being covered with vanco.  Endovascular infections at site of lines
   less likely given negative imaging and lack of consistent positive
   blood cx.  CNS source (epidural or paraspinal abscess) being worked up
   by imaging.
   -Await OSH echo results to compare new and old echo.
   -MRI to assess for septic emboli or abscess
 will obtain MRI of head
   and spine
   -continue to follow daily blood cx , check sputum cx.
   -check true vanco trough at 1:30 AM before vanco
   -Check with ID re: beginning doripenem for Gram-negative pneumonia.
   -hold on LP for now given good explanation of fevers.
   # altered mental status: likely secondary to infection. Head CT does
   not explain AMS.  MRI will provide better resolution of CNS structures
   and spine.
   -use limited sedation
   -daily wake up trials while intubated to assess mental status
   -MRI of head and spine to look for abscess
   # respiratory status: intubated for airway protection. Does appear to
   have pneumonia but oxygenating well.  Thoracentesis yesterday showing
   exudative process.  CXR today shows reaccumulation of fluid.  Pt was on
   CMV.
   -Consider re-starting PSV, but fully support today, given concern for
   pneumonia.  Do not diurese due to concern for infection
   # aortic stenosis: valve area reportedly 0.9cm^2. When heading towards
   extubation, will need to be careful with fluid shifts.
   # aortic regurgitation/endocarditis: will obtain Echo from outside
   hospital (being mailed here).  Possible new endocarditis vs. healed
   vegetation.  Pt is being treated with broad-spectrum antibiotics.
   # anemia: chronic for the last few months since his illness began.
   Likely related to chronic illness and iron deficiency (one report of
   colonic polyps removed). Currently at baseline since transfusion a few
   days ago.
   -monitor HCT
   -given CAD, AS and other illness, consider transfusion for HCT less
   than 25.
   -reconcile high dose of B12 with necessary dosing.
   # chronic renal insufficiency stage 4: Cr at his baseline over the last
   few months.
   -continue calcitriol
   -renally dose medications
   -monitor Cr
   # CAD: continue asa, statin. Hold BB and [**Last Name (un) **] for now unless more
   hypertensive.
   # DM2: hold oral agents and check finger sticks and use insulin sliding
   care.
   # hypothyroidism: continue levothyroxine
   # HTN: holding losartan and metoprolol for now. Will add back as
   needed.
   # Parkinsons Disease: continue sinemet and requip.
   # FEN: Start diabetic tube feeds.  replete lytes
   # PPX: heparin SQ for DVT ppx, PPI per home regimen, bowel regimen,
   aspiration, fall, and MRSA precautions.
   # code status: full confirmed with wife
   # Access: right subclavian placed [**2168-11-15**]; right a line placed
   [**2168-11-15**].
   # Comm: wife [**Name (NI) 625**] [**Telephone/Fax (1) 2577**] (H); [**Telephone/Fax (1) 2578**] (C)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-11-16**] 01:21 AM
   Arterial Line - [**2168-11-16**] 03:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Agree with MSIV Note by [**First Name5 (NamePattern1) 2310**] [**Last Name (NamePattern1) 2632**].  Briefly plan for today as
   follows:
   #Sepsis / Fevers
 cont. to follow WBC, cultures, & fever curve.  MRI
   read pending.  Will discuss necessity of LP with neuro.  Cont.
   treatment with vanc and meropenem.
   # Respiratory failure
 pt. with copious secretions and not tolerating
   PSV well.  Will continue on CMV today and continue treatment for
   possible pneumonia as above.
   ------ Protected Section Addendum Entered By:[**Name (NI) 432**] [**Last Name (NamePattern1) 2316**], MD
   on:[**2168-11-18**] 11:57 ------

2168-11-18 10:16:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2168-11-17**] 09:00 AM
 ULTRASOUND - At [**2168-11-17**] 10:00 AM
   upper extremities
 MAGNETIC RESONANCE IMAGING - At [**2168-11-17**] 09:30 PM
 INVASIVE VENTILATION - STOP [**2168-11-18**] 01:00 AM
 FEVER - 102.5
F - [**2168-11-18**] 01:00 AM
   U/S of upper extremity showing no evidence of phlebitis
   MRI head and TLS spine completed
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2168-11-18**] 02:12 AM
   Meropenem - [**2168-11-18**] 04:03 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-11-18**] 05:43 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2168-11-18**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 39.2
C (102.5
   HR: 110 (83 - 112) bpm
   BP: 131/66(88) {83/42(58) - 140/87(100)} mmHg
   RR: 25 (13 - 36) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 11 (9 - 12)mmHg
   Total In:
                                                                  1,281 mL
                                                                  2,092 mL
   PO:
   TF:
   IVF:
                                                                    941 mL
                                                                  1,762 mL
   Blood products:
   Total out:
                                                                  1,195 mL
                                                                    685 mL
   Urine:
                                                                  1,195 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     86 mL
                                                                  1,409 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 150
   PIP: 31 cmH2O
   Plateau: 25 cmH2O
   SpO2: 95%
   ABG: 7.44/48/117/28/6
   Ve: 8.3 L/min
   PaO2 / FiO2: 293
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
IN addition patient does follow commands for tounge
   protrusion and hand squeeze
   Labs / Radiology
   7.2 g/dL
   245 K/uL
   116 mg/dL
   1.8 mg/dL
   28 mEq/L
   4.0 mEq/L
   30 mg/dL
   105 mEq/L
   141 mEq/L
   22.1 %
   7.4 K/uL
        [image002.jpg]
                            [**2168-11-16**]  03:52 AM
                            [**2168-11-16**]  07:37 AM
                            [**2168-11-16**]  11:01 AM
                            [**2168-11-16**]  06:11 PM
                            [**2168-11-17**]  03:00 AM
                            [**2168-11-17**]  03:03 AM
                            [**2168-11-17**]  05:14 AM
                            [**2168-11-18**]  03:00 AM
                            [**2168-11-18**]  03:24 AM
                            [**2168-11-18**]  06:06 AM
   WBC
   6.9
   7.4
   Hct
   22.9
   22.1
   Plt
   242
   245
   Cr
   1.8
   1.8
   TCO2
   34
   34
   36
   34
   34
   30
   34
   34
   Glucose
   103
   116
   Other labs: PT / PTT / INR:17.5/41.1/1.6, CK / CKMB /
   Troponin-T:26//0.05, ALT / AST:10/42, Alk Phos / T Bili:91/0.7,
   Differential-Neuts:83.6 %, Lymph:11.5 %, Mono:3.4 %, Eos:1.4 %, Lactic
   Acid:0.7 mmol/L, Albumin:2.7 g/dL, LDH:270 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Imaging: [**2168-11-17**]-
   Patient with mild bilateral opaciteis
   Microbiology: Sputum-_GN organisms suggested on stain
   Assessment and Plan
   Patient with complex history of endocarditis and now admitted with
   recurrent fever and transient hypotension with source remaining to be
   defined.  THis is in the setting of Vancomycin and with concerning
   evolution of fevers to 102.5F overnight.  The sources being evaluated
   do include possible para-spinal or epidural collection as a metastatic
   focus of infection.  Issues identifeid at first pass evaluation of
   pleural effusion, possible persistent endocarditis simply do not appear
   to be active infection at this time.
   1)Respiratory Failure--Acute
   -Maintain PSV support is tolerated
   -Given increased secretions will maintain CMV support today until
   secretions have decreased and improved respiratory status maintained to
   allow weaning
   2)Fever/Sepsis-
   -WIll continue with Vancomycin dosing and will continue Meropenem
   -WIll need formal MRI [**Location (un) 118**]
   -Will need to discuss with ID the role of LP here but does seem less
   likely
   -LEgionella negative
   -SPutum--showing gram negative diplococci--Moraxella, Acinetobacter are
   possible concerns and will need to consider expansion of coverage given
   persistent high fevers.
   -I would argue the pulmonary source of infection is clearly most
   likely.
   3)Parkinson's Disease-
   -Versed/Fentanyl
   -Ropinorole
   -B12
   -Sinemet
   -Sedation level is excellent and will continue to dose Parkinson
   medications.
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2168-11-16**] 01:21 AM
   Arterial Line - [**2168-11-16**] 03:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2168-11-19 04:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: fever, altered mental status
   24 Hour Events:
   - FEVER - 102.5
F - [**2168-11-18**] 08:00 AM; BCx and UCx sent.
   - Acinetobacter in sputum culture intermediate sensitivity to Imepenem
   - Consulted ID, recommended starting Tobramycin
   - Pt had episode of severe hypotension yesterday at 10:30am.  Received
   3L NS bolus and then started on Levophed.  Became tachycardic with
   ectopy on Levophed and switched to Neosynephrine. Was on Neo 0.3
   mcg/kg/min until 8pm.
   - MRI showed L frontal lobe acute infarction secondary to distal
   (proximal?) emboli.  Neuro stroke consulted.
   - [**Last Name (un) 567**] stim test negative
   - TSH checked thought to be sick euthyroid (not high-output state)
   - LENIs negative
   - Ordered for Bl carotids, lipid panel and statin per neuro recs, no
   heparin now
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Meropenem (started [**11-15**])
   Metronidazole (started [**11-15**])
   Vancomycin (started [**11-15**])
   Tobramycin (started [**11-18**])
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2168-11-18**] 08:05 AM
   Heparin Sodium (Prophylaxis) - [**2168-11-18**] 10:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Not able to assess
   Flowsheet Data as of  [**2168-11-19**] 04:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 37.1
C (98.8
   HR: 89 (72 - 112) bpm
   BP: 119/61(81) {86/41(56) - 136/69(93)} mmHg
   RR: 15 (14 - 53) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 13 (8 - 13)mmHg
   Mixed Venous O2% Sat: 75 - 75
   Total In:
                                                                  8,825 mL
                                                                    347 mL
   PO:
   TF:
                                                                  1,252 mL
                                                                     86 mL
   IVF:
                                                                  5,938 mL
                                                                    261 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,335 mL
                                                                    140 mL
   Urine:
                                                                  1,335 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,490 mL
                                                                    207 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 150
   PIP: 34 cmH2O
   Plateau: 27 cmH2O
   Compliance: 27.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.44/43/101/31/4
   Ve: 12 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: Overweight / Obese. RSCVL in place, ETT and NGT in
   place.  Appeared uncomfortable.
   Eyes / Conjunctiva: pupils about 3mm symmetric and sluggish but
   reactive, Sclera edema, anicteric
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: normal s1/s2, [**3-10**] harsh early systolic  murmur best
   heard at the base
   Peripheral Vascular: 2+ pulses DP/PT, radial
   Respiratory / Chest: course breath sounds bilaterally with some
   crackles
   Abdominal: Soft, appeared mildly tender on left side, but no rebound
   tenderness. Bowel sounds present, Obese, umbilical hernia -reducible
   Extremities: Right: Trace edema, Left: Trace edema. Bilateral UE tremor
   and cog wheel rigidity.
   Skin:  Warm, no jaundice
   Neurologic: follows simple commands.  Attempts to open eyes to voice.
   Labs / Radiology
   241 K/uL
   8.5 g/dL
   158 mg/dL
   1.8 mg/dL
   31 mEq/L
   4.0 mEq/L
   27 mg/dL
   108 mEq/L
   145 mEq/L
   26.8 %
   9.5 K/uL
        [image002.jpg]
                            [**2168-11-17**]  03:03 AM
                            [**2168-11-17**]  05:14 AM
                            [**2168-11-18**]  03:00 AM
                            [**2168-11-18**]  03:24 AM
                            [**2168-11-18**]  06:06 AM
                            [**2168-11-18**]  12:22 PM
                            [**2168-11-18**]  12:30 PM
                            [**2168-11-18**]  07:29 PM
                            [**2168-11-19**]  01:23 AM
                            [**2168-11-19**]  02:58 AM
   WBC
   7.4
   10.3
   9.5
   Hct
   22.1
   21.9
   26.8
   Plt
   245
   224
   241
   Cr
   1.8
   1.8
   1.8
   TropT
   0.03
   0.03
   0.03
   TCO2
   34
   30
   34
   34
   34
   30
   Glucose
   116
   161
   158
   Other labs: Differential-Neuts:89.0 %, Lymph:5.5 %, Mono:2.2 %, Eos:3.2
   %, Lactic Acid:0.9 mmol/L
   Micro:  ([**11-16**], [**11-17**]) positive sputum cultures for acinetobacter.
   Positive MRSA screen, Cdiff negative x1, blood cultures all negative
   (11/11
 [**11-19**]).
   Echocardiogram: vegitation on aortic valve w/2+aortic regurgitation,
   and mild valve prolapse
   MRI head, spine: no epidural abscess noted. Small R frontal lobe
   infarct
   BL upper and lower extremity U/S: negative for DVT
   CXR: unchanged: b/l pleural effusions and consolidations
   Assessment and Plan
   66 yo M with PMH of DM2, CRI, recent subdural hematomas and bacteremia
   who presents from rehab with altered mental status and fevers.
   # Fevers:  Given fevers, positive sputum, and thick secretions,
   pneumonia most likely, with hospital acquired agents at top of list.
   Sputum positive for Acinetobacter with only intermediate sensitivity to
   imepenem.  Continued fever likely due to undertreated acinetobacter
   pulmonary infection.  Still cannot r/o active endocarditis per imaging
   and recent embolic event concerning for active endocarditis. MRI showed
   no epidural abscess, u/s showed no thrombophlebitis.
   -Await OSH echo results to compare new and old echo.
   -continue to follow daily blood cx , check sputum cx.
   -check urine Cx.
   -ID input appreciated.
   -changed antibiotics to Tobramycin and Unasyn as indicated by
   acinetobacter sensitivities from sputum culture.
   -hold on LP for now given good explanation of fevers.
   #Hypotension: Patient with episode of hypotension w/SBPs down to 70
   in am yesterday.  Gave NS initially but only minimally fluid
   responsive. Gave 2U of PRBCs.  Patient started on Levophed but
   developed a run of ventricular tachycardia.  Levophed changed to
   neosynephrine, which patient tolerated much better.  Likely etiology is
   septic shock. CE negative. CXR w/out pneumothorax. Pressors stopped at
   8pm yesterday, patient normotensive overnight.
   #CVA: acute embolic stroke on MRI
   - no heparin now as per neurology
   - carotid u/s ordered
   - neurology  to follow
   # altered mental status: Likely secondary to infection. Head CT, MRI do
   not explain AMS as per neurology.  Improving mental status
 patient
   able to follow simple commands (like moving feet).
   -use limited sedation
   -daily wake up trials while intubated to assess mental status
   - to consider LP as per neuro recs
   -as patient
s infection is adequately treated, will be able to better
   assess patient
s mental status
   # respiratory status: intubated for airway protection. Does appear to
   have pneumonia but oxygenating well.  Thoracentesis showed exudative
   process.  CXRs since have showed a reaccumulation of fluid.
   -Consider re-starting PSV, but fully support today, given concern for
   pneumonia.  Do not diurese due to concern for infection
   # aortic stenosis: valve area reportedly 0.9cm^2. When heading towards
   extubation, will need to be careful with fluid shifts.
   # aortic regurgitation/endocarditis: will obtain Echo from outside
   hospital (being mailed here).  Possible new endocarditis vs. healed
   vegetation.  Pt is being treated with broad-spectrum antibiotics.
   - will discuss with cardiology when would be an appropriate time to
   consult CT surgery regarding valve replacement
   # anemia: chronic for the last few months since his illness began.
   Likely related to chronic illness and iron deficiency (one report of
   colonic polyps removed). Currently at baseline since transfusion a few
   days ago.
   -monitor HCT
   -given CAD, AS and other illness, consider transfusion for HCT less
   than 25.
   -reconcile high dose of B12 with necessary dosing.
   # chronic renal insufficiency stage 4: Cr at his baseline over the last
   few months.
   -continue calcitriol
   -renally dose medications
   -monitor Cr
   # CAD: continue asa, statin. Hold BB and [**Last Name (un) **] for now unless more
   hypertensive.
   # DM2: hold oral agents and check finger sticks and use insulin sliding
   care.
   # hypothyroidism: continue levothyroxine
   # HTN: holding losartan and metoprolol for now. Will add back as
   needed.
   # Parkinsons Disease: continue sinemet and requip.
   # FEN: Start diabetic tube feeds.  replete lytes
   # PPX: heparin SQ for DVT ppx, PPI per home regimen, bowel regimen,
   aspiration, fall, and MRSA precautions. Order for pneumabed placed.
   # code status: full confirmed with wife
   # Access: right subclavian placed [**2168-11-15**]; right a line placed
   [**2168-11-15**].
   # Comm: wife [**Name (NI) 625**] [**Telephone/Fax (1) 2577**] (H); [**Telephone/Fax (1) 2578**] (C)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-11-16**] 01:21 AM
   Arterial Line - [**2168-11-16**] 03:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-11-19 09:38:00 Physician Attending Progress Note
Chief Complaint: altered mental status, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 URINE CULTURE - At [**2168-11-18**] 10:40 AM
 EKG - At [**2168-11-18**] 02:05 PM
 BLOOD CULTURED - At [**2168-11-18**] 03:45 PM
 ULTRASOUND - At [**2168-11-18**] 04:57 PM
 FEVER - 102.5
F - [**2168-11-18**] 08:00 AM
   Yest: fevers, hypotension, restarted on levophed with sustained Vtach,
   now on Neo
   Able to wean off Neo overnight
   Sputum: gropwing Acinetobacter only int sensi to [**Last Name (un) 350**] - started on
   Tobra in addition to [**Last Name (un) 350**]
   MRI: new right frontal lobe infarct
   Upper and Lower Ext US: neg for clot
   Neuro Stroke felt frontal looks embolic - want carotid dopplers
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2168-11-19**] 02:21 AM
   Metronidazole - [**2168-11-19**] 04:08 AM
   Meropenem - [**2168-11-19**] 05:43 AM
   Tobra single dose
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-11-19**] 05:09 AM
   Midazolam (Versed) - [**2168-11-19**] 09:15 AM
   Fentanyl - [**2168-11-19**] 09:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2168-11-19**] 09:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.2
C (100.7
   HR: 106 (72 - 107) bpm
   BP: 132/65(87) {86/41(56) - 137/69(93)} mmHg
   RR: 22 (14 - 53) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 13 (8 - 19)mmHg
   Mixed Venous O2% Sat: 75 - 75
   Total In:
                                                                  8,826 mL
                                                                  1,103 mL
   PO:
   TF:
                                                                  1,252 mL
                                                                    399 mL
   IVF:
                                                                  5,938 mL
                                                                    524 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,335 mL
                                                                    635 mL
   Urine:
                                                                  1,335 mL
                                                                    635 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,491 mL
                                                                    468 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 65
   PIP: 31 cmH2O
   Plateau: 27 cmH2O
   Compliance: 27.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.44/43/101/31/4
   Ve: 8.8 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: Well nourished, NAD
   HEENT; PERRL, ETT in place, poor dentition
   CV: RR
   Chest: good UOP,
   Abd: obese soft NT + BS
   Skin:  Not assessed
   Neurologic: moves feet to requests,
   Labs / Radiology
   8.5 g/dL
   241 K/uL
   158 mg/dL
   1.8 mg/dL
   31 mEq/L
   4.0 mEq/L
   27 mg/dL
   108 mEq/L
   145 mEq/L
   26.8 %
   9.5 K/uL
        [image002.jpg]
                            [**2168-11-17**]  03:03 AM
                            [**2168-11-17**]  05:14 AM
                            [**2168-11-18**]  03:00 AM
                            [**2168-11-18**]  03:24 AM
                            [**2168-11-18**]  06:06 AM
                            [**2168-11-18**]  12:22 PM
                            [**2168-11-18**]  12:30 PM
                            [**2168-11-18**]  07:29 PM
                            [**2168-11-19**]  01:23 AM
                            [**2168-11-19**]  02:58 AM
   WBC
   7.4
   10.3
   9.5
   Hct
   22.1
   21.9
   26.8
   Plt
   245
   224
   241
   Cr
   1.8
   1.8
   1.8
   TropT
   0.03
   0.03
   0.03
   TCO2
   34
   30
   34
   34
   34
   30
   Glucose
   116
   161
   158
   Other labs: PT / PTT / INR:17.8/46.0/1.6, CK / CKMB /
   Troponin-T:33//0.03, ALT / AST:[**3-24**], Alk Phos / T Bili:89/0.5, Amylase
   / Lipase:/13, Differential-Neuts:89.0 %, Lymph:5.5 %, Mono:2.2 %,
   Eos:3.2 %, Lactic Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:203 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   CXR: profound volume overload compared to yesterday
   Micro:
   Sputum: Acinetobacter
   Blood: NGTD
   Urine: NGTD
   Assessment and Plan
 .H/O ANEMIA, CHRONIC
 SHOCK, SEPTIC
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Patient with complex history of endocarditis and now admitted with
   recurrent fever and transient hypotension with source remaining to be
   defined.  This is in the setting of Vancomycin and with concerning
   evolution of fevers to 102.5F overnight.  The sources being evaluated
   do include possible para-spinal or epidural collection as a metastatic
   focus of infection.  Issues identified at first pass evaluation of
   pleural effusion, possible persistent endocarditis simply do not appear
   to be active infection at this time.
   1)Respiratory Failure
Acute
 now with sig. volume challenge in setting
   of sepsis
   -Given increased secretions will maintain CMV support today until
   secretions have decreased and improved respiratory status maintained to
   allow weaning
   2)SHOck
 required aggressive IVF and vasopressors to maintain MAPS of
   65, in early am able to wean Neo off but needs close monitoring and may
   need restart if MAPS fall.
   Fever/Sepsis- Leading differential is undertreated Acinetobacter PNA
   -Will continue with Vancomycin, Meropenem, Tobra (needs level and
   redose)
   Other sources are endovascular with vegetation on AVR (though no pos
   blood cx), lines, urine
 follow cx, if persistent fevers could also
   repeat TORSO CT
   3)Parkinson's Disease-
   -Versed/Fentanyl
   -Ropinorole
   -B12
   -Sinemet
   -Sedation level is adequate and will continue to dose Parkinson
   medications.
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition: Fibersource HN (Full) - [**2168-11-19**] 08:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-11-16**] 01:21 AM
   Arterial Line - [**2168-11-16**] 03:21 AM
   Prophylaxis:
   DVT: SC hep
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  with family
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2168-11-20 06:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
     * afebrile throughout the day, BP stable during the day, low at night
       but MAP still above 60
     * d/c meropenem, added Unasyn as per ID - need to monitor b/c of Hx
       of PCN allergy
     * seen by neuro stroke, recommended; no heparin drip, check carotid
       u/s
     * tobra level 2 -> repeat dose from yesterday given
     * still to do: touch base w/cardiology over when good to call CT
       surgery re aortic valve replacement
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2168-11-19**] 11:48 AM
   Vancomycin - [**2168-11-20**] 01:07 AM
   Tobramycin - [**2168-11-20**] 01:30 AM
   Ampicillin/Sulbactam (Unasyn) - [**2168-11-20**] 04:34 AM
   Metronidazole - [**2168-11-20**] 04:34 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2168-11-19**] 10:00 PM
   Midazolam (Versed) - [**2168-11-19**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2168-11-20**] 05:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-11-20**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.1
C (98.8
   HR: 87 (72 - 106) bpm
   BP: 130/62(87) {91/45(60) - 146/78(102)} mmHg
   RR: 18 (14 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (10 - 19)mmHg
   Total In:
                                                                  2,995 mL
                                                                  1,041 mL
   PO:
   TF:
                                                                  1,306 mL
                                                                    400 mL
   IVF:
                                                                  1,239 mL
                                                                    641 mL
   Blood products:
   Total out:
                                                                  1,590 mL
                                                                    530 mL
   Urine:
                                                                  1,590 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,405 mL
                                                                    511 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 164 (164 - 164) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 148
   PIP: 37 cmH2O
   Plateau: 29 cmH2O
   Compliance: 29.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.39/49/145/31/4
   Ve: 7 L/min
   PaO2 / FiO2: 363
   Physical Examination
   General Appearance: Overweight / Obese. RSCVL in place, ETT and NGT in
   place.  Appeared uncomfortable.
   Eyes / Conjunctiva: pupils about 3mm symmetric and sluggish but
   reactive, Sclera edema, anicteric
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: normal s1/s2, [**3-10**] harsh early systolic  murmur best
   heard at the base
   Peripheral Vascular: 2+ pulses DP/PT, radial
   Respiratory / Chest: course breath sounds bilaterally with some
   crackles
   Abdominal: Soft, appeared mildly tender on left side, but no rebound
   tenderness. Bowel sounds present, Obese, umbilical hernia -reducible
   Extremities: Right: Trace edema, Left: Trace edema. Bilateral UE tremor
   and cog wheel rigidity.
   Skin:  Warm, no jaundice
   Neurologic: follows simple commands.  Attempts to open eyes to voice.
   Labs / Radiology
   236 K/uL
   8.4 g/dL
   180 mg/dL
   1.8 mg/dL
   31 mEq/L
   3.9 mEq/L
   28 mg/dL
   108 mEq/L
   143 mEq/L
   25.6 %
   7.8 K/uL
        [image002.jpg]
                            [**2168-11-18**]  03:00 AM
                            [**2168-11-18**]  03:24 AM
                            [**2168-11-18**]  06:06 AM
                            [**2168-11-18**]  12:22 PM
                            [**2168-11-18**]  12:30 PM
                            [**2168-11-18**]  07:29 PM
                            [**2168-11-19**]  01:23 AM
                            [**2168-11-19**]  02:58 AM
                            [**2168-11-20**]  03:58 AM
                            [**2168-11-20**]  04:26 AM
   WBC
   7.4
   10.3
   9.5
   7.8
   Hct
   22.1
   21.9
   26.8
   25.6
   Plt
   245
   224
   241
   236
   Cr
   1.8
   1.8
   1.8
   1.8
   TropT
   0.03
   0.03
   0.03
   TCO2
   34
   34
   34
   30
   31
   Glucose
   116
   161
   158
   180
   Other labs: PT / PTT / INR:17.8/46.0/1.6, CK / CKMB /
   Troponin-T:33//0.03, ALT / AST:[**3-24**], Alk Phos / T Bili:89/0.5, Amylase
   / Lipase:/13, Differential-Neuts:89.0 %, Lymph:5.5 %, Mono:2.2 %,
   Eos:3.2 %, Lactic Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:203 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   66 yo M with PMH of DM2, CRI, recent subdural hematomas and bacteremia
   who presents from rehab with altered mental status and fevers.
   # Fevers:  Given fevers, positive sputum, and thick secretions,
   pneumonia most likely, with hospital acquired agents at top of list.
   Sputum positive for Acinetobacter with only intermediate sensitivity to
   imepenem.  Continued fever likely due to undertreated acinetobacter
   pulmonary infection.  Still cannot r/o active endocarditis per imaging
   and recent embolic event concerning for active endocarditis. MRI showed
   no epidural abscess, u/s showed no thrombophlebitis.
   -Await OSH echo results to compare new and old echo.
   -continue to follow daily blood cx , check sputum cx.
   -check urine Cx.
   -ID input appreciated.
   -changed antibiotics to Tobramycin and Unasyn as indicated by
   acinetobacter sensitivities from sputum culture.
   -hold on LP for now given good explanation of fevers.
   #Hypotension: Patient with episode of hypotension w/SBPs down to 70
   in am yesterday.  Gave NS initially but only minimally fluid
   responsive. Gave 2U of PRBCs.  Patient started on Levophed but
   developed a run of ventricular tachycardia.  Levophed changed to
   neosynephrine, which patient tolerated much better.  Likely etiology is
   septic shock. CE negative. CXR w/out pneumothorax. Pressors stopped at
   8pm yesterday, patient normotensive overnight.
   #CVA: acute embolic stroke on MRI
   - no heparin now as per neurology
   - carotid u/s ordered
   - neurology  to follow
   # altered mental status: Likely secondary to infection. Head CT, MRI do
   not explain AMS as per neurology.  Improving mental status
 patient
   able to follow simple commands (like moving feet).
   -use limited sedation
   -daily wake up trials while intubated to assess mental status
   - to consider LP as per neuro recs
   -as patient
s infection is adequately treated, will be able to better
   assess patient
s mental status
   # respiratory status: intubated for airway protection. Does appear to
   have pneumonia but oxygenating well.  Thoracentesis showed exudative
   process.  CXRs since have showed a reaccumulation of fluid.
   -Consider re-starting PSV, but fully support today, given concern for
   pneumonia.  Do not diurese due to concern for infection
   # aortic stenosis: valve area reportedly 0.9cm^2. When heading towards
   extubation, will need to be careful with fluid shifts.
   # aortic regurgitation/endocarditis: will obtain Echo from outside
   hospital (being mailed here).  Possible new endocarditis vs. healed
   vegetation.  Pt is being treated with broad-spectrum antibiotics.
   - will discuss with cardiology when would be an appropriate time to
   consult CT surgery regarding valve replacement
   # anemia: chronic for the last few months since his illness began.
   Likely related to chronic illness and iron deficiency (one report of
   colonic polyps removed). Currently at baseline since transfusion a few
   days ago.
   -monitor HCT
   -given CAD, AS and other illness, consider transfusion for HCT less
   than 25.
   -reconcile high dose of B12 with necessary dosing.
   # chronic renal insufficiency stage 4: Cr at his baseline over the last
   few months.
   -continue calcitriol
   -renally dose medications
   -monitor Cr
   # CAD: continue asa, statin. Hold BB and [**Last Name (un) **] for now unless more
   hypertensive.
   # DM2: hold oral agents and check finger sticks and use insulin sliding
   care.
   # hypothyroidism: continue levothyroxine
   # HTN: holding losartan and metoprolol for now. Will add back as
   needed.
   # Parkinsons Disease: continue sinemet and requip.
   # FEN: Start diabetic tube feeds.  replete lytes
   # PPX: heparin SQ for DVT ppx, PPI per home regimen, bowel regimen,
   aspiration, fall, and MRSA precautions. Order for pneumabed placed.
   # code status: full confirmed with wife
   # Access: right subclavian placed [**2168-11-15**]; right a line placed
   [**2168-11-15**].
   # Comm: wife [**Name (NI) 625**] [**Telephone/Fax (1) 2577**] (H); [**Telephone/Fax (1) 2578**] (C)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-11-19**] 11:41 PM 65 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-11-16**] 01:21 AM
   Arterial Line - [**2168-11-16**] 03:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-11-20 11:51:00 Physician Attending Progress Note
Chief Complaint: resp distress, shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Low grade fever
   Added on Tobra
   Borderline low BPs but did not need to go back on Neosynephrine
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2168-11-19**] 11:48 AM
   Vancomycin - [**2168-11-20**] 01:07 AM
   Tobramycin - [**2168-11-20**] 01:30 AM
   Metronidazole - [**2168-11-20**] 04:34 AM
   Ampicillin/Sulbactam (Unasyn) - [**2168-11-20**] 10:12 AM
   Infusions:
   Midazolam (Versed) - 0.8 mg/hour
   Fentanyl - 35 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-11-20**] 05:58 AM
   Midazolam (Versed) - [**2168-11-20**] 10:12 AM
   Fentanyl - [**2168-11-20**] 10:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-11-20**] 11:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.6
C (99.6
   HR: 82 (68 - 102) bpm
   BP: 96/48(65) {91/45(60) - 147/96(112)} mmHg
   RR: 14 (14 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 13 (10 - 13)mmHg
   Total In:
                                                                  2,995 mL
                                                                  1,829 mL
   PO:
   TF:
                                                                  1,306 mL
                                                                    772 mL
   IVF:
                                                                  1,239 mL
                                                                    877 mL
   Blood products:
   Total out:
                                                                  1,590 mL
                                                                    880 mL
   Urine:
                                                                  1,590 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,405 mL
                                                                    949 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 164 (164 - 164) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 148
   PIP: 34 cmH2O
   Plateau: 24 cmH2O
   Compliance: 39.5 cmH2O/mL
   SpO2: 95%
   ABG: 7.39/49/145/31/4
   Ve: 7.4 L/min
   PaO2 / FiO2: 363
   Physical Examination
   General Appearance: Well nourished, NAD
   HEENT; PERRL, ETT in place, poor dentition
   CV: RR
   Chest: diminished BS at bases no wheezes
   Abd: obese soft NT + BS
   Skin:  warm
   Neurologic: moves feet to requests, opens eyes to voice, more alert
   today
   Labs / Radiology
   8.4 g/dL
   236 K/uL
   180 mg/dL
   1.8 mg/dL
   31 mEq/L
   3.9 mEq/L
   28 mg/dL
   108 mEq/L
   143 mEq/L
   25.6 %
   7.8 K/uL
        [image002.jpg]
                            [**2168-11-18**]  03:00 AM
                            [**2168-11-18**]  03:24 AM
                            [**2168-11-18**]  06:06 AM
                            [**2168-11-18**]  12:22 PM
                            [**2168-11-18**]  12:30 PM
                            [**2168-11-18**]  07:29 PM
                            [**2168-11-19**]  01:23 AM
                            [**2168-11-19**]  02:58 AM
                            [**2168-11-20**]  03:58 AM
                            [**2168-11-20**]  04:26 AM
   WBC
   7.4
   10.3
   9.5
   7.8
   Hct
   22.1
   21.9
   26.8
   25.6
   Plt
   245
   224
   241
   236
   Cr
   1.8
   1.8
   1.8
   1.8
   TropT
   0.03
   0.03
   0.03
   TCO2
   34
   34
   34
   30
   31
   Glucose
   116
   161
   158
   180
   Other labs: PT / PTT / INR:17.8/46.0/1.6, CK / CKMB /
   Troponin-T:33//0.03, ALT / AST:[**3-24**], Alk Phos / T Bili:89/0.5, Amylase
   / Lipase:/13, Differential-Neuts:89.0 %, Lymph:5.5 %, Mono:2.2 %,
   Eos:3.2 %, Lactic Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:203 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 .H/O ANEMIA, CHRONIC
 SHOCK, SEPTIC
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O ANEMIA, CHRONIC
 SHOCK, SEPTIC
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Patient with complex history of endocarditis and now admitted with
   recurrent fever and transient hypotension with source remaining to be
   defined.
   1) Respiratory Failure
Acute
 now with sig. volume challenge in
   setting of sepsis. Had been doing better but dropped BP a few days ago
   and received more IVF Still he is more awake today and will try back on
   PSV and to run even to slightly negative
   2) Acinetobacter PNA: on Tobra
needs repeat level and redose
 clarify
   regimen with pharmacy (esp with his Cr 1.8)
   3) Shock
 resolved, has been normotensive. Would try to run even to
   500 cc negative before fluids begin to further impact  his respiratory
   status
   4) Fever/Sepsis- Leading differential is undertreated Acinetobacter PNA
   Will continue with Vancomycin, Meropenem, Tobra (needs level and
   redose) But considered other sources including  endovascular with
   vegetation on AVR (though no pos blood cx), lines, urine
 follow cx,
   if persistent fevers could also repeat TORSO CT for better look
   3)Parkinson's Disease- Sinemet
   -Ropinorole
   -B12
   Sedation level is adequate and will continue to dose Parkinson
   medications.
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition: Fibersource HN (Full) - [**2168-11-20**] 07:01 AM 65 mL/hour
   Glycemic Control:  tighten sliding scale
   Lines:
   Multi Lumen - [**2168-11-16**] 01:21 AM
   Arterial Line - [**2168-11-16**] 03:21 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  pt and wife and daughter
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2168-11-21 05:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Tobra dosed at 180 mg with peak & trough check
   - lasix 10 mg IV
   - tolerated pressure support for several hrs, but CO2 increased, Vt
   decreased, placed back on CMV.
   - CT [**Doctor First Name 91**] consulted
   - insulin sliding scale increased
   - carotid ultrasound still to be done
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2168-11-19**] 11:48 AM
   Tobramycin - [**2168-11-21**] 12:54 AM
   Vancomycin - [**2168-11-21**] 02:03 AM
   Ampicillin/Sulbactam (Unasyn) - [**2168-11-21**] 03:33 AM
   Metronidazole - [**2168-11-21**] 03:33 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 60 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-11-20**] 09:54 PM
   Midazolam (Versed) - [**2168-11-21**] 12:42 AM
   Fentanyl - [**2168-11-21**] 12:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-11-21**] 05:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.6
   Tcurrent: 37.2
C (98.9
   HR: 92 (68 - 103) bpm
   BP: 107/54(71) {95/48(65) - 147/96(112)} mmHg
   RR: 18 (14 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (7 - 16)mmHg
   Total In:
                                                                  3,626 mL
                                                                  1,169 mL
   PO:
   TF:
                                                                  1,564 mL
                                                                    365 mL
   IVF:
                                                                  1,592 mL
                                                                    604 mL
   Blood products:
   Total out:
                                                                  3,035 mL
                                                                    840 mL
   Urine:
                                                                  3,035 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    591 mL
                                                                    329 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 400 (298 - 405) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 78
   PIP: 21 cmH2O
   Plateau: 31 cmH2O
   SpO2: 97%
   ABG: 7.46/44/89/32
   Ve: 8.5 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General Appearance: Overweight / Obese. RSCVL in place, ETT and NGT in
   place.  Alert.
   Eyes / Conjunctiva: PERRL, anicteric
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: normal s1/s2, [**3-10**] early systolic  murmur best heard at
   the base
   Peripheral Vascular: 2+ pulses DP/PT, radial
   Respiratory / Chest: coarse breath sounds bilaterally with some
   crackles
   Abdominal: Soft, non-tender, non-distended. Bowel sounds present,
   Obese, umbilical hernia -reducible
   Extremities: Right: Trace edema, Left: Trace edema. Bilateral UE tremor
   Skin:  Warm, no jaundice
   Neurologic: follows simple commands.  Opens eyes to voice.  Moves all 4
   limbs
   Labs / Radiology
   244 K/uL
   8.5 g/dL
   172 mg/dL
   1.7 mg/dL
   33 mEq/L
   4.0 mEq/L
   26 mg/dL
   107 mEq/L
   144 mEq/L
   26.7 %
   7.3 K/uL
        [image002.jpg]
   Rads: AP CXR shows mild increased opacities at base, R heart border.
                            [**2168-11-18**]  07:29 PM
                            [**2168-11-19**]  01:23 AM
                            [**2168-11-19**]  02:58 AM
                            [**2168-11-20**]  03:58 AM
                            [**2168-11-20**]  04:26 AM
                            [**2168-11-20**]  04:20 PM
                            [**2168-11-20**]  07:28 PM
                            [**2168-11-21**]  01:36 AM
                            [**2168-11-21**]  02:13 AM
                            [**2168-11-21**]  04:05 AM
   WBC
   9.5
   7.8
   7.3
   Hct
   26.8
   25.6
   26.7
   Plt
   241
   236
   244
   Cr
   1.8
   1.8
   1.7
   1.7
   TropT
   0.03
   0.03
   TCO2
   30
   31
   33
   35
   34
   Glucose
   158
   180
   139
   172
   Other labs: PT / PTT / INR:17.8/46.0/1.6, CK / CKMB /
   Troponin-T:33//0.03, ALT / AST:[**3-24**], Alk Phos / T Bili:89/0.5, Amylase
   / Lipase:/13, Differential-Neuts:89.0 %, Lymph:5.5 %, Mono:2.2 %,
   Eos:3.2 %, Lactic Acid:0.6 mmol/L, Albumin:2.7 g/dL, LDH:203 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:1.9 mg/dL  Tobramycin peak-7.9,
   Trough- 1.9* low
   Assessment and Plan
   66 yo M with PMH of DM2, CRI, recent subdural hematomas and bacteremia
   who presents from rehab with altered mental status and fevers.
   # Fevers:  Given fevers, positive sputum, and thick secretions,
   pneumonia most likely, with hospital acquired agents at top of list.
   Sputum positive for Acinetobacter with only intermediate sensitivity to
   imipenem.  Continued low-grade fever likely due to undertreated
   acinetobacter pulmonary infection (only on day 2 of appropriate
   antibiotics).  However, if patient remains febrile, will need to search
   for other sources of infection.  Other possible sources- endocarditis:
   cannot r/o active endocarditis per imaging and recent embolic event
   concerning for active endocarditis.  Thrombophlebitis- less likely
   given negative LENI/UENI.  CNS sources-MRI showed no epidural or
   intracranial abscesses.  C. diff was negative on [**11-16**], but if
   re-spikes, can consider C. diff
   -Await OSH echo results to compare new and old echo.
   -continue to follow daily blood cx
   -check urine Cx.
   -ID input appreciated.
   -changed antibiotics to Tobramycin and Unasyn as indicated by
   acinetobacter sensitivities from sputum culture.  Tobra peak was at
   goal, tobra trough was appropriate per ID.
   -Need to re-check peak and trough in [**2-7**] days or if creatinine
   clearance changes by [**5-14**] mL/hour
   -hold on LP for now given good explanation of fevers.
   #CVA: likely embolic stroke on MRI, either from endocarditis, or
   atheroembolic
   - no heparin now as per neurology
   - carotid u/s ordered, f/u today
   - neurology  to follow
   # respiratory status: intubated for airway protection. Does appear to
   have pneumonia but oxygenating well, did not tolerate PSV last night.
   Probably is somewhat volume overloaded given resuscitation over the
   weekend and CXR, but need to be careful [**2-6**] recent hypotension.
   -Trial of PSV today at 15/5.
   -Lasix 10 mg IV x1 today to maintain stable volume status.
   # altered mental status: Likely secondary to infection.  Appears to be
   improving today.  Head CT, MRI do not explain AMS as per neurology.
   Improving mental status
 patient able to follow simple commands (like
   moving feet).
   -use limited sedation
   -daily wake up trials while intubated to assess mental status
   - to consider LP as per neuro recs
   -as patient
s infection is adequately treated, will be able to better
   assess patient
s mental status
   #Hypotension: Patient with episode of hypotension w/SBPs down to 70
   in am [**11-18**].  Pressures improved with NS and 2U of PRBCs.  Patient
   started on Levophed but developed a run of ventricular tachycardia.
   Levophed changed to neosynephrine, which patient tolerated much
   better.  Likely etiology is septic shock. CE negative.  CXR w/out
   pneumothorax.  CTA not yet performed to r/o PE, but less likely given
   pt
s improvement.  Pressors stopped at 8pm [**11-18**], patient normotensive
   since.
   # aortic valve disease/endocarditis: Pt has severe aortic stenosis (<1
   cm2) with aortic valve prolapse and AR.  Will obtain Echo from outside
   hospital (being mailed here).  Echo shows possible new endocarditis vs.
   healed vegetation.  Pt is being treated with broad-spectrum
   antibiotics.
   - CT surgery consulted regarding appropriateness and timing of aortic
   valve replacement
   # anemia: chronic for the last few months since his illness began.
   Likely related to chronic illness and iron deficiency (one report of
   colonic polyps removed). Currently at baseline since transfusion a few
   days ago.
   -monitor HCT
   -given CAD, AS and other illness, consider transfusion for HCT less
   than 25.
   -reconcile high dose of B12 with necessary dosing.
   # chronic renal insufficiency stage 4: Cr baseline 1.3-1.4 earlier this
   year.
   -continue calcitriol
   -renally dose medications
   -monitor Cr
   # CAD: continue asa, statin. Hold BB and [**Last Name (un) **] for now unless more
   hypertensive.
   # HTN: holding losartan and metoprolol for now. Will add back as
   needed.
   # DM2: hold oral agents and check finger sticks and use insulin sliding
   care; iss increased.
   # hypothyroidism: continue levothyroxine
   # Parkinsons Disease: continue carbidopa/levodopa and requip.
   # FEN: Start diabetic tube feeds.  replete lytes
   # PPX: heparin SQ for DVT ppx, PPI per home regimen, bowel regimen,
   aspiration, fall, and MRSA precautions. Order for pneumabed placed.
   # code status: full confirmed with wife
   # Access: right subclavian placed [**2168-11-15**]; right a line placed
   [**2168-11-15**].
   # Comm: wife [**Name (NI) 625**] [**Telephone/Fax (1) 2577**] (H); [**Telephone/Fax (1) 2578**] (C)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-11-20**] 09:26 PM 65 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-11-16**] 01:21 AM
   Arterial Line - [**2168-11-16**] 03:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-11-21 09:14:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with low grade fever this morning
   -Patient with hypercarbia noted with PSV attempt this morning
   -Patient briefly on pressors this weekend but rapidly weaned off with
   IVF given
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2168-11-19**] 11:48 AM
   Tobramycin - [**2168-11-21**] 12:54 AM
   Vancomycin - [**2168-11-21**] 02:03 AM
   Ampicillin/Sulbactam (Unasyn) - [**2168-11-21**] 03:33 AM
   Metronidazole - [**2168-11-21**] 03:33 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2168-11-21**] 12:42 AM
   Fentanyl - [**2168-11-21**] 12:42 AM
   Heparin Sodium (Prophylaxis) - [**2168-11-21**] 05:44 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2168-11-21**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (98.9
   HR: 82 (77 - 103) bpm
   BP: 107/53(72) {95/48(65) - 140/96(112)} mmHg
   RR: 18 (14 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 10 (7 - 16)mmHg
   Total In:
                                                                  3,626 mL
                                                                  1,461 mL
   PO:
   TF:
                                                                  1,564 mL
                                                                    582 mL
   IVF:
                                                                  1,592 mL
                                                                    649 mL
   Blood products:
   Total out:
                                                                  3,035 mL
                                                                    920 mL
   Urine:
                                                                  3,035 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    591 mL
                                                                    541 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 600) mL
   Vt (Spontaneous): 400 (298 - 405) mL
   PS : 15 cmH2O
   RR (Set): 18
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 78
   PIP: 31 cmH2O
   Plateau: 28 cmH2O
   SpO2: 97%
   ABG: 7.46/44/89.[**Numeric Identifier 299**]/33/6
   Ve: 10.2 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   244 K/uL
   172 mg/dL
   1.7 mg/dL
   33 mEq/L
   4.0 mEq/L
   26 mg/dL
   107 mEq/L
   144 mEq/L
   26.7 %
   7.3 K/uL
        [image002.jpg]
                            [**2168-11-19**]  02:58 AM
                            [**2168-11-20**]  03:58 AM
                            [**2168-11-20**]  04:26 AM
                            [**2168-11-20**]  04:20 PM
                            [**2168-11-20**]  07:28 PM
                            [**2168-11-21**]  01:36 AM
                            [**2168-11-21**]  02:13 AM
                            [**2168-11-21**]  04:05 AM
                            [**2168-11-21**]  05:43 AM
                            [**2168-11-21**]  06:50 AM
   WBC
   7.8
   7.3
   Hct
   25.6
   26.7
   Plt
   236
   244
   Cr
   1.8
   1.7
   1.7
   TCO2
   30
   31
   33
   35
   34
   35
   32
   Glucose
   180
   139
   172
   Other labs: PT / PTT / INR:17.8/46.0/1.6, CK / CKMB /
   Troponin-T:33//0.03, ALT / AST:[**3-24**], Alk Phos / T Bili:89/0.5, Amylase
   / Lipase:/13, Differential-Neuts:89.0 %, Lymph:5.5 %, Mono:2.2 %,
   Eos:3.2 %, Lactic Acid:0.6 mmol/L, Albumin:2.7 g/dL, LDH:203 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   Fluid analysis / Other labs: 7.46/44/89--on CMV
   Imaging: CXR-Unable to be viewed on PACS system this morning
will
   readdress post rounds
   Assessment and Plan
   66 yo male admitted with recurrent sepsis and now with persistent
   ventilatory failure and recurrent fever without source clearly
   defined.  He has had multiple sources evaluated including pleural
   effusion (no infection seen), Sputum-Acinetobacter seen, MRI without
   clear evidence of epidural collection.
 SHOCK, SEPTIC--possible recurrence of endocarditis but know that we
   have pneumonia as perhaps most likely current acute source
   -Vanco/Unasyn/Tobra/Flagyl continuing
   -Endocarditis
patient with significant AI and will consider further
   evaluation and treatment
   -No evidence of epidural collection
   -Is likely vasodilatory shock and much improved with volume support
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])-Patient intubated with
   altered mental status and hypoxemic respiratory failure.  This may well
   have been pneumonia at onset, now has issue of volume overload in the
   setting of required fluids for transient decrease in blood pressure
   -PSV trial this morning with PSV 15/5
   -Move to wean with stable Ve requirement <10
   -Will likely need diuresis and continued stability of infection/sepsis
   prior to further wean
   -Will look to maintain a relative minimum of sedation with
   Versed/Fentanyl at low doses
 ALTERED MENTAL STATUS (NOT DELIRIUM)--Parkinson's Disease in
   background and significant infectious insult in the setting of sedating
   medications.
   -Ropinorole
   -Sinemet
   -B12
   CVA
Patient with findings on MRI head felt to be embolic insult from
   previous endocarditis and neurology in to evaluate patient in full.
   -No role for heparin
   -Continue with supportive measures.
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Fluid Overload.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-11-20**] 09:26 PM 65 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2168-11-16**] 01:21 AM
   Arterial Line - [**2168-11-16**] 03:21 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45

2168-11-22 05:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -CT surgery- does not need AV surgery
   -Spent all day on PSV, became hypercarbic with low tidal volumes,
   switched back to CMV
   -carotid U/S showed no lesion by prelim read
   -medications concentrated (fentanyl)
 NASAL SWAB - At [**2168-11-22**] 04:04 AM
   MRSA screening
   -statin d/c'd
   -hypernatremic-free water increased
   -magnesium and phosphate repleted
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2168-11-19**] 11:48 AM
   Tobramycin - [**2168-11-22**] 12:44 AM
   Vancomycin - [**2168-11-22**] 01:44 AM
   Ampicillin/Sulbactam (Unasyn) - [**2168-11-22**] 04:10 AM
   Metronidazole - [**2168-11-22**] 04:10 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-11-21**] 10:09 PM
   Fentanyl - [**2168-11-22**] 12:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-11-22**] 05:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.7
C (98
   HR: 69 (69 - 111) bpm
   BP: 103/49(67) {93/43(38) - 152/81(106)} mmHg
   RR: 14 (14 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 12 (11 - 16)mmHg
   Total In:
                                                                  3,600 mL
                                                                  1,135 mL
   PO:
   TF:
                                                                  1,416 mL
                                                                    352 mL
   IVF:
                                                                  1,344 mL
                                                                    583 mL
   Blood products:
   Total out:
                                                                  3,830 mL
                                                                    760 mL
   Urine:
                                                                  3,790 mL
                                                                    720 mL
   NG:
                                                                     40 mL
                                                                     40 mL
   Stool:
   Drains:
   Balance:
                                                                   -230 mL
                                                                    375 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 376 (371 - 411) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 81
   PIP: 35 cmH2O
   Plateau: 28 cmH2O
   SpO2: 98%
   ABG: 7.45/52/103/36/9
   Ve: 7.4 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General Appearance: Overweight / Obese. RSCVL in place, ETT and NGT in
   place.  Alert, uncomfortable, diaphoretic
   Eyes / Conjunctiva: PERRL, anicteric
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: normal s1/s2, [**3-10**] early systolic  murmur best heard at
   the base
   Peripheral Vascular: 2+ pulses DP/PT, radial
   Respiratory / Chest: coarse breath sounds bilaterally with some
   crackles, more pronounced since yesterday.
   Abdominal: Soft, non-tender, non-distended. Bowel sounds present,
   Obese, umbilical hernia -reducible
   Extremities: Right: Trace edema, Left: Trace edema. Bilateral UE tremor
   Skin:  Warm, no jaundice
   Neurologic: follows simple commands.  Opens eyes to voice.  Moves all 4
   limbs
   Labs / Radiology
   239 K/uL
   8.3 g/dL
   193 mg/dL
   1.5 mg/dL
   36 mEq/L
   4.1 mEq/L
   27 mg/dL
   106 mEq/L
   146 mEq/L
   25.4 %
   5.8 K/uL
        [image002.jpg]
                            [**2168-11-21**]  02:13 AM
                            [**2168-11-21**]  04:05 AM
                            [**2168-11-21**]  05:43 AM
                            [**2168-11-21**]  06:50 AM
                            [**2168-11-21**]  11:43 AM
                            [**2168-11-21**]  05:59 PM
                            [**2168-11-21**]  07:57 PM
                            [**2168-11-21**]  10:46 PM
                            [**2168-11-22**]  01:14 AM
                            [**2168-11-22**]  03:00 AM
   WBC
   5.8
   Hct
   25.4
   Plt
   239
   Cr
   1.6
   1.5
   TCO2
   35
   34
   35
   32
   37
   37
   35
   37
   Glucose
   173
   193
   Other labs: PT / PTT / INR:17.8/46.0/1.6, CK / CKMB /
   Troponin-T:33//0.03, ALT / AST:[**3-24**], Alk Phos / T Bili:89/0.5, Amylase
   / Lipase:/13, Differential-Neuts:89.0 %, Lymph:5.5 %, Mono:2.2 %,
   Eos:3.2 %, Lactic Acid:0.6 mmol/L, Albumin:2.7 g/dL, LDH:203 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   66 yo M with PMH of DM2, CRI, recent subdural hematomas and bacteremia
   who presents from rehab with altered mental status and fevers.
   # respiratory status: intubated for airway protection.  Tolerated until
   PSV last night, when he had low lung volumes, increased RR, and ABG
   showing worsening hypercarbia.  Pt may have some muscular weakness, due
   to prolonged illness and multiple intubations.   Worsening secretions
   and continuing A-a gradient argue for potential pneumonia and CHF
   contribution.  Probably is somewhat volume overloaded given
   resuscitation over the weekend and CXR
   -Continue PSV, attempt to wean.  If patient begins to fail, switch to
   AC.
   -diurese today to net -1L.  Effusion likely not contributing to
   clinical picture and may improve with diuresis.
   -3PM lytes
   # Fevers:  Given fevers, positive sputum, and thick secretions,
   pneumonia most likely, with hospital acquired agents at top of list.
   Sputum positive for Acinetobacter with only intermediate sensitivity to
   imipenem.  Was afebrile most of the day, now that he is appropriately
   covered.  However, if patient spikes again, will need to search for
   other sources of infection.  Other possible sources- endocarditis:
   cannot r/o active endocarditis per imaging and recent embolic event
   concerning for active endocarditis.  Thrombophlebitis- less likely
   given negative LENI/UENI.  CNS sources-MRI showed no epidural or
   intracranial abscesses.  C. diff was negative on [**11-16**], but if
   re-spikes, can consider C. diff
   -Await OSH echo results to compare new and old echo.
   -continue to follow daily blood cx
   -check sputum Cx.
   -ID input appreciated.
   -changed antibiotics to Tobramycin and Unasyn as indicated by
   acinetobacter sensitivities from sputum culture.  Tobra peak was at
   goal, tobra trough was appropriate per ID.
   -Need to re-check peak and trough in [**2-7**] days or if creatinine
   clearance changes by [**5-14**] mL/hour
   -hold on LP for now given good explanation of fevers.
   -d/c metronidazole added for empiric sepsis coverage.
   -vanco trough in AM
   -If patient does well today, consider d/c
ing vanco, which was added
   for potential recurrent endocarditis, but is now less likely given
   absence of positive cultures.
   # aortic valve disease/endocarditis: Pt is being treated with
   broad-spectrum antibiotics, but no evidence of active infection.  CT
   surgery consulted, says surgery not necessary at this time.
   -Will obtain Echo from outside hospital (being mailed here)
   #CVA: likely embolic stroke on MRI, either from endocarditis, or
   atheroembolic
   - no heparin now as per neurology
   -negative carotid ultrasound
   d/c statin, as not needed right now per neuro.
   - neurology  to follow
   # altered mental status: Likely secondary to infection.  Appears to be
   improving today.  Head CT, MRI do not explain AMS as per neurology.
   Improving mental status
 patient able to follow simple commands (like
   moving feet).
   -use limited sedation
   -daily wake up trials while intubated to assess mental status
   - to consider LP as per neuro recs
   -as patient
s infection is adequately treated, will be able to better
   assess patient
s mental status
   #Hypotension: Patient with episode of hypotension w/SBPs down to 70
   in am [**11-18**].  Pressures improved with NS and 2U of PRBCs.  Patient
   started on Levophed but developed a run of ventricular tachycardia.
   Levophed changed to neosynephrine, which patient tolerated much
   better.  Likely etiology is septic shock. CE negative.  CXR w/out
   pneumothorax.  CTA not yet performed to r/o PE, but less likely given
   pt
s improvement.  Pressors stopped at 8pm [**11-18**], patient normotensive
   since.
   # anemia: chronic for the last few months since his illness began.
   Likely related to chronic illness and iron deficiency.  At baseline
   now.
   -monitor HCT.  Given clinical context, transfuse for Hct<25
   # chronic renal insufficiency stage 4: Cr baseline 1.3-1.4 earlier this
   year.
   -continue calcitriol
   -renally dose medications, including vanco and tobra
   -monitor Cr
   # CAD: continue asa, statin. Hold BB and [**Last Name (un) **] for now unless more
   hypertensive.
   # HTN: holding losartan and metoprolol for now. Will add back as
   needed.
   # DM2: using ISS; will increase for hyperglycemia.
   # hypothyroidism: continue levothyroxine
   # Parkinsons Disease: continue carbidopa/levodopa and requip.
   # FEN: Start diabetic tube feeds.  replete lytes
   # PPX: heparin SQ for DVT ppx, PPI per home regimen, bowel regimen,
   aspiration, fall, and MRSA precautions.
   # code status: full confirmed with wife
   # Access: right subclavian placed [**2168-11-15**]; right a line placed
   [**2168-11-15**].
   # Comm: wife [**Name (NI) 625**] [**Telephone/Fax (1) 2577**] (H); [**Telephone/Fax (1) 2578**] (C)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-11-22**] 04:12 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-11-16**] 01:21 AM
   Arterial Line - [**2168-11-16**] 03:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Pt was seen and examined by myself today.  I agree with the assessment
   and plan as outlined by [**First Name5 (NamePattern1) 2310**] [**Last Name (NamePattern1) 2718**].
   [**First Name11 (Name Pattern1) 2719**] [**Initial (NamePattern1) **]. [**Last Name (NamePattern1) 1764**], PGY1
   [**Numeric Identifier 2720**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 2719**] [**Last Name (NamePattern1) 1764**], MD
   on:[**2168-11-22**] 11:51 ------

2168-11-22 09:03:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with PSV trial last night and again this morning with evolution
   of tachypnea and tachycardia with elevation in BP.  ABG at the time
   showed-->
   7.43/54/121
   Cardiac surgery eval completed and conclusion of no need for surgery
   reached.
   24 Hour Events:
 ULTRASOUND - At [**2168-11-21**] 02:00 PM
   History obtained from Medical records
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2168-11-19**] 11:48 AM
   Tobramycin - [**2168-11-22**] 12:44 AM
   Vancomycin - [**2168-11-22**] 01:44 AM
   Ampicillin/Sulbactam (Unasyn) - [**2168-11-22**] 04:10 AM
   Metronidazole - [**2168-11-22**] 04:10 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-11-21**] 10:09 PM
   Fentanyl - [**2168-11-22**] 06:27 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2168-11-22**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.7
C (98
   HR: 106 (69 - 107) bpm
   BP: 145/73(100) {93/43(38) - 155/88(109)} mmHg
   RR: 25 (14 - 29) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 18 (11 - 18)mmHg
   Total In:
                                                                  3,600 mL
                                                                  1,490 mL
   PO:
   TF:
                                                                  1,416 mL
                                                                    564 mL
   IVF:
                                                                  1,344 mL
                                                                    676 mL
   Blood products:
   Total out:
                                                                  3,830 mL
                                                                    860 mL
   Urine:
                                                                  3,790 mL
                                                                    820 mL
   NG:
                                                                     40 mL
                                                                     40 mL
   Stool:
   Drains:
   Balance:
                                                                   -230 mL
                                                                    630 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 452 (371 - 452) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 81
   PIP: 21 cmH2O
   SpO2: 93%
   ABG: 7.43/54/121/36/10
   Ve: 11.2 L/min
   PaO2 / FiO2: 303
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   239 K/uL
   193 mg/dL
   1.5 mg/dL
   36 mEq/L
   4.1 mEq/L
   27 mg/dL
   106 mEq/L
   146 mEq/L
   25.4 %
   5.8 K/uL
        [image002.jpg]
                            [**2168-11-21**]  04:05 AM
                            [**2168-11-21**]  05:43 AM
                            [**2168-11-21**]  06:50 AM
                            [**2168-11-21**]  11:43 AM
                            [**2168-11-21**]  05:59 PM
                            [**2168-11-21**]  07:57 PM
                            [**2168-11-21**]  10:46 PM
                            [**2168-11-22**]  01:14 AM
                            [**2168-11-22**]  03:00 AM
                            [**2168-11-22**]  06:22 AM
   WBC
   5.8
   Hct
   25.4
   Plt
   239
   Cr
   1.6
   1.5
   TCO2
   34
   35
   32
   37
   37
   35
   37
   37
   Glucose
   173
   193
   Other labs: PT / PTT / INR:17.8/46.0/1.6, CK / CKMB /
   Troponin-T:33//0.03, ALT / AST:[**3-24**], Alk Phos / T Bili:89/0.5, Amylase
   / Lipase:/13, Differential-Neuts:89.0 %, Lymph:5.5 %, Mono:2.2 %,
   Eos:3.2 %, Lactic Acid:0.6 mmol/L, Albumin:2.7 g/dL, LDH:203 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   66 yo male with recurrent endocarditis admitted with altered mental
   status and recurrent fevers with infectious source yet to be fully
   defined.  He has had TEE without significant vegitation, no evidence of
   epidural collection, exudative effusion without active infection in
   pleural space and and possible pneumonia as leading diagnosis given
   pulmonary infiltrates.  In addition he had findings on MRI of embolic
   CVA as a new finding.
   Sepsis-Acenetobacter from pulmonary source remains leading differential
   diagnosis
   -Will continue with Rx with Unasyn/Tobramycin for VAP
   -Will continue Vanco for concern for recurrent endocarditis
   -Patient started on flagyl for possible C. Diff but will D/C with
   negative findings
   -LP frequently discussed but patient presentation not consistent and
   current course has been one of decreased fever with treatment of known
   pathogens.  Will bring discussion with ID team to conclusion at this
   time.
   -Would consider D/C of Vanco with TEE findings and negative blood
   cultures
   Resipratory Failure-Patient with worsening respiratory distress with
   change to PSV mode of support--He has significant hypoxemia noted and
   recurrent difficulty with tolerance of PSV.  His barriers to extubation
   all do relate to what is poor compliance as relates to pneumonia,
   pleural effusion, obesity and volume overload.  Of note patient with
   NIF -18 concerning for overlying weakness which may make compensation
   for poor compliance difficult
   Will-->
   -Diurese as possible
   -Check NIF to rule out possible NM weakness
   -Continue PNA Rx
   -Drainage of effusion considered but unlikely to result in significant
   advantage in regards to pulmonary mechanics
   CVA-
   -No anticoagulation
   -Evaluation negative to date for active issues such as vegitation,
   carotid stenosis as contribor
 .H/O ANEMIA, CHRONIC
 SHOCK, SEPTIC
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Fluid Overload.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-11-22**] 04:12 AM 65 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2168-11-16**] 01:21 AM
   Arterial Line - [**2168-11-16**] 03:21 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2168-11-23 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2168-11-22**] 06:38 PM
     * Febrile to 100.7 -> blood cultures sent
     * a-line pulled out
     * 2 episodes of elevated CO2 to 60's when on PSV 10/5
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Metronidazole - [**2168-11-22**] 04:10 AM
   Tobramycin - [**2168-11-23**] 01:10 AM
   Vancomycin - [**2168-11-23**] 02:01 AM
   Ampicillin/Sulbactam (Unasyn) - [**2168-11-23**] 04:20 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2168-11-22**] 12:01 PM
   Heparin Sodium (Prophylaxis) - [**2168-11-22**] 10:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-11-23**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.7
C (99.8
   HR: 88 (88 - 112) bpm
   BP: 107/68(77) {107/63(75) - 161/86(101)} mmHg
   RR: 18 (15 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 18 (4 - 18)mmHg
   Total In:
                                                                  3,593 mL
                                                                  1,097 mL
   PO:
   TF:
                                                                  1,560 mL
                                                                    414 mL
   IVF:
                                                                  1,193 mL
                                                                    483 mL
   Blood products:
   Total out:
                                                                  4,310 mL
                                                                    755 mL
   Urine:
                                                                  4,260 mL
                                                                    755 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                   -717 mL
                                                                    342 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 494 (377 - 494) mL
   PS : 15 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.47/56/86.[**Numeric Identifier 253**]/39/14
   NIF: -18 cmH2O
   Ve: 9.7 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: Overweight / Obese. RSCVL in place, ETT and NGT in
   place.  Alert, uncomfortable, diaphoretic
   Eyes / Conjunctiva: PERRL, anicteric
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: normal s1/s2, [**3-10**] early systolic  murmur best heard at
   the base
   Peripheral Vascular: 2+ pulses DP/PT, radial
   Respiratory / Chest: coarse breath sounds bilaterally with some
   crackles, more pronounced since yesterday.
   Abdominal: Soft, non-tender, non-distended. Bowel sounds present,
   Obese, umbilical hernia -reducible
   Extremities: Right: Trace edema, Left: Trace edema. Bilateral UE tremor
   Skin:  Warm, no jaundice
   Neurologic: follows simple commands.  Opens eyes to voice.  Moves all 4
   limbs
   Labs / Radiology
   247 K/uL
   9.3 g/dL
   223 mg/dL
   1.6 mg/dL
   39 mEq/L
   4.2 mEq/L
   25 mg/dL
   100 mEq/L
   142 mEq/L
   28.9 %
   9.9 K/uL
        [image002.jpg]
                            [**2168-11-21**]  10:46 PM
                            [**2168-11-22**]  01:14 AM
                            [**2168-11-22**]  03:00 AM
                            [**2168-11-22**]  06:22 AM
                            [**2168-11-22**]  09:54 AM
                            [**2168-11-22**]  02:49 PM
                            [**2168-11-22**]  03:15 PM
                            [**2168-11-22**]  05:06 PM
                            [**2168-11-23**]  01:32 AM
                            [**2168-11-23**]  02:58 AM
   WBC
   5.8
   9.9
   Hct
   25.4
   28.9
   Plt
   239
   247
   Cr
   1.5
   1.6
   1.6
   TCO2
   35
   37
   37
   38
   39
   41
   42
   Glucose
   193
   175
   223
   Other labs: PT / PTT / INR:17.8/46.0/1.6, CK / CKMB /
   Troponin-T:33//0.03, ALT / AST:[**3-24**], Alk Phos / T Bili:89/0.5, Amylase
   / Lipase:/13, Differential-Neuts:89.0 %, Lymph:5.5 %, Mono:2.2 %,
   Eos:3.2 %, Lactic Acid:0.7 mmol/L, Albumin:2.7 g/dL, LDH:203 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   66 yo M with PMH of DM2, CRI, recent subdural hematomas and bacteremia
   who presents from rehab with altered mental status and fevers.
   # respiratory status: intubated for airway protection.  Tolerated until
   PSV last night, when he had low lung volumes, increased RR, and ABG
   showing worsening hypercarbia.  Pt may have some muscular weakness, due
   to prolonged illness and multiple intubations.   Worsening secretions
   and continuing A-a gradient argue for potential pneumonia and CHF
   contribution.  Probably is somewhat volume overloaded given
   resuscitation over the weekend and CXR
   -Continue PSV, attempt to wean.  If patient begins to fail, switch to
   AC.
   -diurese today to net -1L.  Effusion likely not contributing to
   clinical picture and may improve with diuresis.
   -3PM lytes
   # Fevers:  Given fevers, positive sputum, and thick secretions,
   pneumonia most likely, with hospital acquired agents at top of list.
   Sputum positive for Acinetobacter with only intermediate sensitivity to
   imipenem.  Was afebrile most of the day, now that he is appropriately
   covered.  However, if patient spikes again, will need to search for
   other sources of infection.  Other possible sources- endocarditis:
   cannot r/o active endocarditis per imaging and recent embolic event
   concerning for active endocarditis.  Thrombophlebitis- less likely
   given negative LENI/UENI.  CNS sources-MRI showed no epidural or
   intracranial abscesses.  C. diff was negative on [**11-16**], but if
   re-spikes, can consider C. diff
   -Await OSH echo results to compare new and old echo.
   -continue to follow daily blood cx
   -check sputum Cx.
   -ID input appreciated.
   -changed antibiotics to Tobramycin and Unasyn as indicated by
   acinetobacter sensitivities from sputum culture.  Tobra peak was at
   goal, tobra trough was appropriate per ID.
   -Need to re-check peak and trough in [**2-7**] days or if creatinine
   clearance changes by [**5-14**] mL/hour
   -hold on LP for now given good explanation of fevers.
   -d/c metronidazole added for empiric sepsis coverage.
   -vanco trough in AM
   -If patient does well today, consider d/c
ing vanco, which was added
   for potential recurrent endocarditis, but is now less likely given
   absence of positive cultures.
   # aortic valve disease/endocarditis: Pt is being treated with
   broad-spectrum antibiotics, but no evidence of active infection.  CT
   surgery consulted, says surgery not necessary at this time.
   -Will obtain Echo from outside hospital (being mailed here)
   #CVA: likely embolic stroke on MRI, either from endocarditis, or
   atheroembolic
   - no heparin now as per neurology
   -negative carotid ultrasound
   d/c statin, as not needed right now per neuro.
   - neurology  to follow
   # altered mental status: Likely secondary to infection.  Appears to be
   improving today.  Head CT, MRI do not explain AMS as per neurology.
   Improving mental status
 patient able to follow simple commands (like
   moving feet).
   -use limited sedation
   -daily wake up trials while intubated to assess mental status
   - to consider LP as per neuro recs
   -as patient
s infection is adequately treated, will be able to better
   assess patient
s mental status
   #Hypotension: Patient with episode of hypotension w/SBPs down to 70
   in am [**11-18**].  Pressures improved with NS and 2U of PRBCs.  Patient
   started on Levophed but developed a run of ventricular tachycardia.
   Levophed changed to neosynephrine, which patient tolerated much
   better.  Likely etiology is septic shock. CE negative.  CXR w/out
   pneumothorax.  CTA not yet performed to r/o PE, but less likely given
   pt
s improvement.  Pressors stopped at 8pm [**11-18**], patient normotensive
   since.
   # anemia: chronic for the last few months since his illness began.
   Likely related to chronic illness and iron deficiency.  At baseline
   now.
   -monitor HCT.  Given clinical context, transfuse for Hct<25
   # chronic renal insufficiency stage 4: Cr baseline 1.3-1.4 earlier this
   year.
   -continue calcitriol
   -renally dose medications, including vanco and tobra
   -monitor Cr
   # CAD: continue asa, statin. Hold BB and [**Last Name (un) **] for now unless more
   hypertensive.
   # HTN: holding losartan and metoprolol for now. Will add back as
   needed.
   # DM2: using ISS; will increase for hyperglycemia.
   # hypothyroidism: continue levothyroxine
   # Parkinsons Disease: continue carbidopa/levodopa and requip.
   # FEN: Start diabetic tube feeds.  replete lytes
   # PPX: heparin SQ for DVT ppx, PPI per home regimen, bowel regimen,
   aspiration, fall, and MRSA precautions.
   # code status: full confirmed with wife
   # Access: right subclavian placed [**2168-11-15**]; right a line placed
   [**2168-11-15**].
   # Comm: wife [**Name (NI) 625**] [**Telephone/Fax (1) 2577**] (H); [**Telephone/Fax (1) 2578**] (C)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-11-22**] 06:56 PM 65 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-11-16**] 01:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-11-23 10:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with evolution of hypercarbia in the setting of attempts at PSV
   wean across yesterday requiring increase in PSV to [**12-9**] this morning.
   Recurrent fevers to 100.7
   24 Hour Events:
 ARTERIAL LINE - STOP [**2168-11-22**] 06:38 PM
 BLOOD CULTURED - At [**2168-11-23**] 04:19 AM
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Metronidazole - [**2168-11-22**] 04:10 AM
   Tobramycin - [**2168-11-23**] 01:10 AM
   Vancomycin - [**2168-11-23**] 02:01 AM
   Ampicillin/Sulbactam (Unasyn) - [**2168-11-23**] 04:20 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2168-11-22**] 12:01 PM
   Heparin Sodium (Prophylaxis) - [**2168-11-22**] 10:54 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2168-11-23**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.7
C (99.8
   HR: 106 (88 - 112) bpm
   BP: 139/84(97) {107/63(75) - 161/93(102)} mmHg
   RR: 26 (15 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 16 (4 - 19)mmHg
   Total In:
                                                                  3,593 mL
                                                                  1,367 mL
   PO:
   TF:
                                                                  1,560 mL
                                                                    631 mL
   IVF:
                                                                  1,193 mL
                                                                    537 mL
   Blood products:
   Total out:
                                                                  4,310 mL
                                                                  1,140 mL
   Urine:
                                                                  4,260 mL
                                                                  1,135 mL
   NG:
                                                                     50 mL
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                   -717 mL
                                                                    227 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 410 (377 - 494) mL
   PS : 12 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 18 cmH2O
   SpO2: 97%
   ABG: 7.42/59/87.[**Numeric Identifier 7**]/39/10
   Ve: 10.2 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   247 K/uL
   223 mg/dL
   1.6 mg/dL
   39 mEq/L
   4.2 mEq/L
   25 mg/dL
   100 mEq/L
   142 mEq/L
   28.9 %
   9.9 K/uL
        [image002.jpg]
                            [**2168-11-22**]  01:14 AM
                            [**2168-11-22**]  03:00 AM
                            [**2168-11-22**]  06:22 AM
                            [**2168-11-22**]  09:54 AM
                            [**2168-11-22**]  02:49 PM
                            [**2168-11-22**]  03:15 PM
                            [**2168-11-22**]  05:06 PM
                            [**2168-11-23**]  01:32 AM
                            [**2168-11-23**]  02:58 AM
                            [**2168-11-23**]  07:24 AM
   WBC
   5.8
   9.9
   Hct
   25.4
   28.9
   Plt
   239
   247
   Cr
   1.5
   1.6
   1.6
   TCO2
   37
   37
   38
   39
   41
   42
   40
   Glucose
   193
   175
   223
   Other labs: PT / PTT / INR:17.8/46.0/1.6, CK / CKMB /
   Troponin-T:33//0.03, ALT / AST:[**3-24**], Alk Phos / T Bili:89/0.5, Amylase
   / Lipase:/13, Differential-Neuts:89.0 %, Lymph:5.5 %, Mono:2.2 %,
   Eos:3.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL, LDH:203 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   Fluid analysis / Other labs: ABG--7.42/59/88
   Assessment and Plan
   66 yo male with recent history of significant endocarditis now admitted
   with recurrent fevers and findings consistent with sepsis.  Source has
   remained to be fully defined but certainly pneumonia appears to be
   leading diagnosis.  He has had difficulty with wean from mechanical
   ventilatory support in the setting of what may well be volume overload,
   residual pulmonary secretions and neuromuscular weakness.
   1)Sepsis-Rx primarily for Acinetobacter pneumonia and likely residual
   endocarditis and will continue to treat for likely co-existing gram
   positive infection.
   Tobra/Unasyn to continue x 8 day course (are 5 days done)
   Vancomycin x 4 week total with presumptive enterococcus as source for
   endocarditis.
   2)Respiratory Failure-Sources as noted above
   -Will need to control metabolic alkalosis
   -Will need to move to diruresis today as tolerated and will have to be
   careful with acid/base status
   -Will need optimal altertness
   -Will need to actively wean PSV support
   -Secretions improved somewhat today
   3)Altered Mental Status
   -Continue with dopamine agonists
   -Versed/Fentanyl to wean as possible.
   -Patient with modest improvement in altertness and responsiveness today
   Additional active issues to be addressed as defined in the housestaff
   note of this date.
 .H/O ANEMIA, CHRONIC
 SHOCK, SEPTIC
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Fluid Overload.
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2168-11-16**] 01:21 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2168-11-24 05:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - lasix 20 mg IV given - HCO3 increased
   - given arginine (early am)
   - acetazolaminde x 1 day
   - Tobra peak ordered
   - insulin increased
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Metronidazole - [**2168-11-22**] 04:10 AM
   Tobramycin - [**2168-11-24**] 12:28 AM
   Vancomycin - [**2168-11-24**] 03:28 AM
   Ampicillin/Sulbactam (Unasyn) - [**2168-11-24**] 04:23 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2168-11-23**] 11:30 AM
   Fentanyl - [**2168-11-23**] 06:35 PM
   Heparin Sodium (Prophylaxis) - [**2168-11-23**] 11:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-11-24**] 05:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.4
   HR: 74 (68 - 107) bpm
   BP: 92/53(61) {88/53(61) - 146/102(109)} mmHg
   RR: 18 (13 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 12 (7 - 20)mmHg
   Total In:
                                                                  3,289 mL
                                                                  1,221 mL
   PO:
   TF:
                                                                  1,567 mL
                                                                    335 mL
   IVF:
                                                                  1,062 mL
                                                                    736 mL
   Blood products:
   Total out:
                                                                  3,575 mL
                                                                    510 mL
   Urine:
                                                                  3,565 mL
                                                                    500 mL
   NG:
                                                                     10 mL
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                   -286 mL
                                                                    711 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 462 (410 - 462) mL
   PS : 12 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 52
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: 7.42/59/87.[**Numeric Identifier 7**]/40/10
   Ve: 7.1 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: Overweight / Obese. RSCVL in place, ETT and NGT in
   place.  Alert, uncomfortable, diaphoretic
   Eyes / Conjunctiva: PERRL, anicteric
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: normal s1/s2, [**3-10**] early systolic  murmur best heard at
   the base
   Peripheral Vascular: 2+ pulses DP/PT, radial
   Respiratory / Chest: coarse breath sounds bilaterally with some
   crackles, more pronounced since yesterday.
   Abdominal: Soft, non-tender, non-distended. Bowel sounds present,
   Obese, umbilical hernia -reducible
   Extremities: Right: Trace edema, Left: Trace edema. Bilateral UE tremor
   Skin:  Warm, no jaundice
   Neurologic: follows simple commands.  Opens eyes to voice.  Moves all 4
   limbs
   Labs / Radiology
   249 K/uL
   8.9 g/dL
   177 mg/dL
   1.6 mg/dL
   40 mEq/L
   3.8 mEq/L
   26 mg/dL
   99 mEq/L
   144 mEq/L
   28.8 %
   7.8 K/uL
        [image002.jpg]
                            [**2168-11-22**]  06:22 AM
                            [**2168-11-22**]  09:54 AM
                            [**2168-11-22**]  02:49 PM
                            [**2168-11-22**]  03:15 PM
                            [**2168-11-22**]  05:06 PM
                            [**2168-11-23**]  01:32 AM
                            [**2168-11-23**]  02:58 AM
                            [**2168-11-23**]  07:24 AM
                            [**2168-11-23**]  03:36 PM
                            [**2168-11-24**]  02:11 AM
   WBC
   9.9
   7.8
   Hct
   28.9
   28.8
   Plt
   247
   249
   Cr
   1.6
   1.6
   1.6
   1.6
   TCO2
   37
   38
   39
   41
   42
   40
   Glucose
   175
   223
   167
   177
   Other labs: PT / PTT / INR:17.0/40.7/1.5, CK / CKMB /
   Troponin-T:33//0.03, ALT / AST:[**3-24**], Alk Phos / T Bili:89/0.5, Amylase
   / Lipase:/13, Differential-Neuts:89.0 %, Lymph:5.5 %, Mono:2.2 %,
   Eos:3.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL, LDH:203 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   66 yo M with PMH of DM2, CRI, recent subdural hematomas and bacteremia
   who presents from rehab with altered mental status and fevers.
   # Pneumonia/Failure to Wean: intubated for airway protection but
   complicated by acinetobater pneumonia and pulmonary edema.  Pt may have
   some muscular weakness, due to prolonged illness and multiple
   intubations.   Not able to tolerate PS 10/5 yesterday and unable to
   wean further.  Other workup for fevers negative thus far.  Can consider
   LP if persistent fevers and mental status changes.
   - Will rest today, continue diuresis and plan for weaning trial
   tomorrow.  Currently stable on [**12-9**].
   -diurese today to net -1L.  Effusion may improve with diuresis.
   -3PM lytes
   - treat with Tobramcyin and Unasyn for 8 day course, started [**2168-11-18**]
   (today is day 5 of 8)
   - Tobra peak with PM dose tonight
   - appreciate ID recs
   .
   # Endocarditis with AR: Pt is being treated with broad-spectrum
   antibiotics, but no evidence of active infection.  CT surgery consulted
   and  surgery not necessary at this time.
   -Will obtain Echo from outside hospital (being mailed here)
   - vancomycin for 3 week course per ID
   #CVA: likely embolic stroke on MRI, either from endocarditis, or
   atheroembolic. U/S of carotids negative.
   - aspirin (no heparin or statin needed)
   - neurology  to follow
   .
   # altered mental status: Likely secondary to infection.  Appears to be
   improving today.  Head CT and MRI do not explain AMS as per neurology.
   Improving mental status
 patient able to answer questions today.  Have
   considered LP; however MS improving.
   -use limited sedation
   -daily wake up trials while intubated to assess mental status
   -as patient
s infection is adequately treated, will be able to better
   assess patient
s mental status
   .
   # chronic renal insufficiency stage 4: Cr baseline 1.3-1.4 earlier this
   year.
   -continue calcitriol
   -renally dose medications, including vanco and tobra
   -monitor Cr as Lasix given
   # CAD: continue asa. Hold BB and [**Last Name (un) **] for now unless more hypertensive.
   # hx HTN: holding losartan and metoprolol for now. Will add back as
   needed.
   # DM2: using ISS; will increase for hyperglycemia.
   # hypothyroidism: continue levothyroxine
   # Parkinsons Disease: continue carbidopa/levodopa and requip.
   # FEN: Diabetic tube feeds.  replete lytes
   # PPX: heparin SQ for DVT ppx, PPI per home regimen, bowel regimen,
   aspiration, fall, and MRSA precautions.
   # code status: full confirmed with wife
   # Access: right subclavian placed [**2168-11-15**]
   # Comm: wife [**Name (NI) 625**] [**Telephone/Fax (1) 2577**] (H); [**Telephone/Fax (1) 2578**] (C)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-11-24**] 12:20 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-11-16**] 01:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-11-24 09:06:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with continued attempts at diuresis with Lasic and Diamox
   However--this morning patient with evolution of hypotension transiently
   with fluid responsiveness suggesting persistent hypovolemia
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Metronidazole - [**2168-11-22**] 04:10 AM
   Tobramycin - [**2168-11-24**] 12:28 AM
   Vancomycin - [**2168-11-24**] 03:28 AM
   Ampicillin/Sulbactam (Unasyn) - [**2168-11-24**] 04:23 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2168-11-23**] 11:30 AM
   Fentanyl - [**2168-11-23**] 06:35 PM
   Heparin Sodium (Prophylaxis) - [**2168-11-24**] 06:19 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-11-24**] 08:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.1
   HR: 87 (68 - 107) bpm
   BP: 80/46(53) {80/46(53) - 140/102(109)} mmHg
   RR: 18 (13 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 11 (7 - 21)mmHg
   Total In:
                                                                  3,289 mL
                                                                  2,327 mL
   PO:
   TF:
                                                                  1,567 mL
                                                                    520 mL
   IVF:
                                                                  1,062 mL
                                                                  1,247 mL
   Blood products:
   Total out:
                                                                  3,575 mL
                                                                    950 mL
   Urine:
                                                                  3,565 mL
                                                                    740 mL
   NG:
                                                                     10 mL
                                                                    210 mL
   Stool:
   Drains:
   Balance:
                                                                   -286 mL
                                                                  1,377 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 450 (433 - 462) mL
   PS : 12 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 52
   PIP: 18 cmH2O
   SpO2: 98%
   ABG: 7.41/61/91.[**Numeric Identifier 253**]/40/10
   Ve: 7.4 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   249 K/uL
   177 mg/dL
   1.6 mg/dL
   40 mEq/L
   3.8 mEq/L
   26 mg/dL
   99 mEq/L
   144 mEq/L
   28.8 %
   7.8 K/uL
        [image002.jpg]
                            [**2168-11-22**]  09:54 AM
                            [**2168-11-22**]  02:49 PM
                            [**2168-11-22**]  03:15 PM
                            [**2168-11-22**]  05:06 PM
                            [**2168-11-23**]  01:32 AM
                            [**2168-11-23**]  02:58 AM
                            [**2168-11-23**]  07:24 AM
                            [**2168-11-23**]  03:36 PM
                            [**2168-11-24**]  02:11 AM
                            [**2168-11-24**]  05:49 AM
   WBC
   9.9
   7.8
   Hct
   28.9
   28.8
   Plt
   247
   249
   Cr
   1.6
   1.6
   1.6
   1.6
   TCO2
   38
   39
   41
   42
   40
   40
   Glucose
   175
   223
   167
   177
   Other labs: PT / PTT / INR:17.0/40.7/1.5, CK / CKMB /
   Troponin-T:33//0.03, ALT / AST:[**3-24**], Alk Phos / T Bili:89/0.5, Amylase
   / Lipase:/13, Differential-Neuts:89.0 %, Lymph:5.5 %, Mono:2.2 %,
   Eos:3.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL, LDH:203 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: 7.42/61
   Assessment and Plan
   66 yo male with history of recurrent endocarditis and now re-admitted
   with sepsis and subsequent respiratory failure with concerning picture
   of continued ventilator associated pneumonia.  We have tried to
   maintain negative fluid balance to facilitate ventilatory weaning but
   patient has had repeated cultures showing persistent acinetobacter on
   culture of [**11-22**] and in the setting of significant evidence of
   contraction alkalosis patient has had recurrent hypotension with good
   response to IVF administration.
   1)Respiratory Failure
Patient with favorable pulmonary mechanics, he
   has maximal diuresis, he has improving mental status this morning even
   with Versed/Fentanyl going.  The concerning issues are that he has
   weakness documented on NIF testing, some continued secretions described
   as moderate and persistent acinetobacter.
   -SBT x 30 minutes
   -Extubation if patient able to have trend down in sputum volume will
   continue to move to extubation
   -Trial scopolamine patch to minimize oral secretions
   -Will work towards extubation as soon as sputum volume has decreased
   2)Sepsis
Patient with recurrent hypotension noted this morning.  He had
   excellent response to IVF given
   -Hold diuresis this morning
   -Continue with antibiotics
   -Vanco
endocarditis
   -Tobra
Acinetobacter
   -Will discuss with ID the role of Bactrim or alternative antibiotics
   for pneumonia and work to achieve therapeutic levels of Tobra.
   Additional issues to be addressed as defined and described in the
   housestaff note of this date.
 .H/O ANEMIA, CHRONIC
 SHOCK, SEPTIC
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Fluid Overload.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2168-11-16**] 01:21 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2168-11-24 16:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt was on PS [**12-10**] during the day yesterday, on SBT this morning. Having
   copious secretions.   Bicarb increasing so was given arginine and
   acetazolamide yesterday.
   Hypotensive this morning, responded to NS bolus.  Got 500cc
s NS.
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Metronidazole - [**2168-11-22**] 04:10 AM
   Tobramycin - [**2168-11-24**] 12:28 AM
   Vancomycin - [**2168-11-24**] 03:28 AM
   Ampicillin/Sulbactam (Unasyn) - [**2168-11-24**] 04:00 PM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2168-11-23**] 06:35 PM
   Heparin Sodium (Prophylaxis) - [**2168-11-24**] 06:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-11-24**] 04:37 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.4
C (97.5
   HR: 72 (68 - 104) bpm
   BP: 97/57(66) {80/46(53) - 141/102(109)} mmHg
   RR: 16 (13 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 13 (7 - 21)mmHg
   Total In:
                                                                  3,289 mL
                                                                  3,034 mL
   PO:
   TF:
                                                                  1,567 mL
                                                                    781 mL
   IVF:
                                                                  1,062 mL
                                                                  1,513 mL
   Blood products:
   Total out:
                                                                  3,575 mL
                                                                  1,805 mL
   Urine:
                                                                  3,565 mL
                                                                  1,595 mL
   NG:
                                                                     10 mL
                                                                    210 mL
   Stool:
   Drains:
   Balance:
                                                                   -286 mL
                                                                  1,229 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 605 (389 - 605) mL
   PS : 12 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 52
   PIP: 18 cmH2O
   SpO2: 97%
   ABG: 7.41/61/91.[**Numeric Identifier 253**]/40/10
   Ve: 9.5 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: Overweight / Obese. RSCVL in place, ETT and NGT in
   place.  Alert, comfortable.  Answering questions appropriately.
   Eyes / Conjunctiva: PERRL, anicteric
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: normal s1/s2, [**3-10**] early systolic  murmur best heard at
   the base
   Peripheral Vascular: 2+ pulses DP/PT, radial
   Respiratory / Chest: coarse breath sounds bilaterally with some
   crackles, more pronounced since yesterday.
   Abdominal: Soft, non-tender, non-distended. Bowel sounds present,
   Obese, umbilical hernia -reducible
   Extremities: Right: Trace edema, Left: Trace edema. Bilateral UE tremor
   Skin:  Warm, no jaundice
   Neurologic: follows simple commands.  Opens eyes to voice.  Moves all 4
   limbs, answering questions.
   Labs / Radiology
   249 K/uL
   8.9 g/dL
   177 mg/dL
   1.6 mg/dL
   40 mEq/L
   3.8 mEq/L
   26 mg/dL
   99 mEq/L
   144 mEq/L
   28.8 %
   7.8 K/uL
        [image002.jpg]
                            [**2168-11-22**]  09:54 AM
                            [**2168-11-22**]  02:49 PM
                            [**2168-11-22**]  03:15 PM
                            [**2168-11-22**]  05:06 PM
                            [**2168-11-23**]  01:32 AM
                            [**2168-11-23**]  02:58 AM
                            [**2168-11-23**]  07:24 AM
                            [**2168-11-23**]  03:36 PM
                            [**2168-11-24**]  02:11 AM
                            [**2168-11-24**]  05:49 AM
   WBC
   9.9
   7.8
   Hct
   28.9
   28.8
   Plt
   247
   249
   Cr
   1.6
   1.6
   1.6
   1.6
   TCO2
   38
   39
   41
   42
   40
   40
   Glucose
   175
   223
   167
   177
   Other labs: PT / PTT / INR:17.0/40.7/1.5, CK / CKMB /
   Troponin-T:33//0.03, ALT / AST:[**3-24**], Alk Phos / T Bili:89/0.5, Amylase
   / Lipase:/13, Differential-Neuts:89.0 %, Lymph:5.5 %, Mono:2.2 %,
   Eos:3.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL, LDH:203 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   66 yo M with PMH of DM2, CRI, recent subdural hematomas and bacteremia
   who presents from rehab with altered mental status and fevers.
   # Pneumonia/Failure to Wean: intubated for airway protection but
   complicated by acinetobater pneumonia and pulmonary edema.  Pt may have
   some muscular weakness, due to prolonged illness and multiple
   intubations.   Was difficult to wean secondary to agitation,
   discomfort, secretions.
   - SBT this morning with plan to rest on PS for the day due to
   secretions, attempt further weaning tomorrow
   -diurese today to net -1L.  Effusion may improve with diuresis.
   -3PM lytes
   - treat with Tobramcyin and Unasyn for 8 day course, started [**2168-11-18**]
   (today is day 5 of 8)
   - Tobra peak with PM dose tonight
   - appreciate ID recs
   .
   # Endocarditis with AR: Pt is being treated with broad-spectrum
   antibiotics, but no evidence of active infection.  CT surgery consulted
   and  surgery not necessary at this time.
   -Will obtain Echo from outside hospital (being mailed here)
   - vancomycin for 3 week course per ID
   #CVA: likely embolic stroke on MRI, either from endocarditis, or
   atheroembolic. U/S of carotids negative.
   - aspirin (no heparin or statin needed)
   - neurology  to follow
   .
   # altered mental status: Likely secondary to infection.  Appears to be
   improving today.  Head CT and MRI do not explain AMS as per neurology.
   Improving mental status
 patient able to answer questions today.  Have
   considered LP; however MS improving.
   -use limited sedation
   -daily wake up trials while intubated to assess mental status
   -as patient
s infection is adequately treated, will be able to better
   assess patient
s mental status
   .
   # chronic renal insufficiency stage 4: Cr baseline 1.3-1.4 earlier this
   year.
   -continue calcitriol
   -renally dose medications, including vanco and tobra
   -monitor Cr as Lasix given
   # CAD: continue asa. Hold BB and [**Last Name (un) **] for now unless more hypertensive.
   # hx HTN: holding losartan and metoprolol for now. Will add back as
   needed.
   # DM2: using ISS; will increase for hyperglycemia.
   # hypothyroidism: continue levothyroxine
   # Parkinsons Disease: continue carbidopa/levodopa and requip.
   # FEN: Diabetic tube feeds.  replete lytes
   # PPX: heparin SQ for DVT ppx, PPI per home regimen, bowel regimen,
   aspiration, fall, and MRSA precautions.
   # code status: full confirmed with wife
   # Access: right subclavian placed [**2168-11-15**]
   # Comm: wife [**Name (NI) 625**] [**Telephone/Fax (1) 2577**] (H); [**Telephone/Fax (1) 2578**] (C)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-11-24**] 12:20 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-11-16**] 01:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-11-25 05:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2168-11-24**] 08:32 AM
   Had 30 minute SBT in AM yesterday, then on PS 12/5 throughout day due
   to secretions
   Tobramycin dose increased and peak level ordered for [**11-26**]
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Tobramycin - [**2168-11-25**] 12:21 AM
   Vancomycin - [**2168-11-25**] 01:30 AM
   Ampicillin/Sulbactam (Unasyn) - [**2168-11-25**] 03:57 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-11-24**] 06:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-11-25**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (99
   HR: 82 (67 - 104) bpm
   BP: 121/70(82) {80/46(53) - 145/98(108)} mmHg
   RR: 18 (15 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 8 (7 - 18)mmHg
   Total In:
                                                                  3,936 mL
                                                                  1,155 mL
   PO:
   TF:
                                                                  1,265 mL
                                                                    368 mL
   IVF:
                                                                  1,661 mL
                                                                    426 mL
   Blood products:
   Total out:
                                                                  2,440 mL
                                                                    500 mL
   Urine:
                                                                  2,230 mL
                                                                    500 mL
   NG:
                                                                    210 mL
   Stool:
   Drains:
   Balance:
                                                                  1,496 mL
                                                                    655 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 442 (0 - 605) mL
   PS : 8 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: 7.41/61/91.[**Numeric Identifier 253**]/37/10
   Ve: 6.4 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: Overweight / Obese. RSCVL in place, ETT and NGT in
   place.  Alert, comfortable.  Answering questions appropriately.
   Eyes / Conjunctiva: PERRL, anicteric
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: normal s1/s2, [**3-10**] early systolic  murmur best heard at
   the base
   Peripheral Vascular: 2+ pulses DP/PT, radial
   Respiratory / Chest: coarse breath sounds bilaterally with some
   crackles, more pronounced since yesterday.
   Abdominal: Soft, non-tender, non-distended. Bowel sounds present,
   Obese, umbilical hernia -reducible
   Extremities: Right: Trace edema, Left: Trace edema. Bilateral UE tremor
   Skin:  Warm, no jaundice
   Neurologic: follows simple commands.  Opens eyes to voice.  Moves all 4
   limbs, answering questions.
   Labs / Radiology
   261 K/uL
   9.3 g/dL
   160 mg/dL
   1.4 mg/dL
   37 mEq/L
   4.3 mEq/L
   30 mg/dL
   101 mEq/L
   142 mEq/L
   29.9 %
   9.2 K/uL
        [image002.jpg]
                            [**2168-11-22**]  02:49 PM
                            [**2168-11-22**]  03:15 PM
                            [**2168-11-22**]  05:06 PM
                            [**2168-11-23**]  01:32 AM
                            [**2168-11-23**]  02:58 AM
                            [**2168-11-23**]  07:24 AM
                            [**2168-11-23**]  03:36 PM
                            [**2168-11-24**]  02:11 AM
                            [**2168-11-24**]  05:49 AM
                            [**2168-11-25**]  03:42 AM
   WBC
   9.9
   7.8
   9.2
   Hct
   28.9
   28.8
   29.9
   Plt
   247
   249
   261
   Cr
   1.6
   1.6
   1.6
   1.6
   1.4
   TCO2
   39
   41
   42
   40
   40
   Glucose
   175
   223
   167
   177
   160
   Other labs: PT / PTT / INR:16.0/38.2/1.4, CK / CKMB /
   Troponin-T:33//0.03, ALT / AST:[**3-24**], Alk Phos / T Bili:89/0.5, Amylase
   / Lipase:/13, Differential-Neuts:89.0 %, Lymph:5.5 %, Mono:2.2 %,
   Eos:3.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL, LDH:203 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   66 yo M with PMH of DM2, CRI, recent subdural hematomas and bacteremia
   who presents from rehab with altered mental status and fevers.
   # Pneumonia/Failure to Wean: intubated for airway protection but
   complicated by acinetobater pneumonia and pulmonary edema.  Pt may have
   some muscular weakness, due to prolonged illness and multiple
   intubations.   Was difficult to wean secondary to agitation,
   discomfort, secretions.
   - SBT this morning with plan to rest on PS for the day due to
   secretions, attempt further weaning tomorrow
   -considering recent episode of hypotension, will not attempt further
   diuresis today
   - treat with Tobramcyin and Unasyn for 8 day course, started [**2168-11-18**]
   (today is day 6 of 8)
   - f/u with ID regarding Tobra dosing and next peak level
   .
   # Endocarditis with AR: Pt is being treated with broad-spectrum
   antibiotics, but no evidence of active infection.  CT surgery consulted
   and  surgery not necessary at this time.
   - vancomycin for 4 week course per ID, today is 9 of 28.
   #CVA: likely embolic stroke on MRI, either from endocarditis, or
   atheroembolic. U/S of carotids negative.
   - aspirin (no heparin or statin needed)
   - neurology  to follow
   .
   # altered mental status: Likely secondary to infection.  Appears to be
   improving today.  Head CT and MRI do not explain AMS as per neurology.
   Improving mental status
 patient able to answer questions today.  Have
   considered LP; however MS improving.
   -use limited sedation
   -daily wake up trials while intubated to assess mental status
   -as patient
s infection is adequately treated, will be able to better
   assess patient
s mental status
   .
   # chronic renal insufficiency stage 4: Cr baseline 1.3-1.4 earlier this
   year.
   -continue calcitriol
   -renally dose medications, including vanco and tobra
   -monitor Cr
   # CAD: continue asa. Hold BB and [**Last Name (un) **] for now unless more hypertensive.
   # hx HTN: holding losartan and metoprolol for now. Will add back as
   needed.
   # DM2: using ISS; will increase for hyperglycemia.
   # hypothyroidism: continue levothyroxine
   # Parkinsons Disease: continue carbidopa/levodopa and requip.
   # FEN: Diabetic tube feeds.  replete lytes
   # PPX: heparin SQ for DVT ppx, PPI per home regimen, bowel regimen,
   aspiration, fall, and MRSA precautions.
   # code status: full confirmed with wife
   # Access: right subclavian placed [**2168-11-15**]
   # Comm: wife [**Name (NI) 625**] [**Telephone/Fax (1) 2577**] (H); [**Telephone/Fax (1) 2578**] (C)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-11-24**] 07:39 PM 65 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-11-16**] 01:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-11-25 10:16:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with persistent Acinetobacter in sputum
   Patient continued on PSV over yesterday
   24 Hour Events:
 EKG - At [**2168-11-24**] 08:32 AM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Tobramycin - [**2168-11-25**] 12:21 AM
   Vancomycin - [**2168-11-25**] 01:30 AM
   Ampicillin/Sulbactam (Unasyn) - [**2168-11-25**] 03:57 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-11-25**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37
C (98.6
   HR: 95 (67 - 95) bpm
   BP: 134/83(95) {97/54(64) - 145/98(108)} mmHg
   RR: 19 (15 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 11 (7 - 14)mmHg
   Total In:
                                                                  3,936 mL
                                                                  1,485 mL
   PO:
   TF:
                                                                  1,265 mL
                                                                    592 mL
   IVF:
                                                                  1,661 mL
                                                                    453 mL
   Blood products:
   Total out:
                                                                  2,440 mL
                                                                  1,015 mL
   Urine:
                                                                  2,230 mL
                                                                  1,015 mL
   NG:
                                                                    210 mL
   Stool:
   Drains:
   Balance:
                                                                  1,496 mL
                                                                    470 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 425 (0 - 605) mL
   PS : 8 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: ///37/
   Ve: 7.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   261 K/uL
   160 mg/dL
   1.4 mg/dL
   37 mEq/L
   4.3 mEq/L
   30 mg/dL
   101 mEq/L
   142 mEq/L
   29.9 %
   9.2 K/uL
        [image002.jpg]
                            [**2168-11-22**]  02:49 PM
                            [**2168-11-22**]  03:15 PM
                            [**2168-11-22**]  05:06 PM
                            [**2168-11-23**]  01:32 AM
                            [**2168-11-23**]  02:58 AM
                            [**2168-11-23**]  07:24 AM
                            [**2168-11-23**]  03:36 PM
                            [**2168-11-24**]  02:11 AM
                            [**2168-11-24**]  05:49 AM
                            [**2168-11-25**]  03:42 AM
   WBC
   9.9
   7.8
   9.2
   Hct
   28.9
   28.8
   29.9
   Plt
   247
   249
   261
   Cr
   1.6
   1.6
   1.6
   1.6
   1.4
   TCO2
   39
   41
   42
   40
   40
   Glucose
   175
   223
   167
   177
   160
   Other labs: PT / PTT / INR:16.0/38.2/1.4, CK / CKMB /
   Troponin-T:33//0.03, ALT / AST:[**3-24**], Alk Phos / T Bili:89/0.5, Amylase
   / Lipase:/13, Differential-Neuts:89.0 %, Lymph:5.5 %, Mono:2.2 %,
   Eos:3.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL, LDH:203 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   66 yo male with initial admission with recurrent fevers in the setting
   of treated endocarditis.  He has evolved a significant pneumonia with
   Acinetobacter as likely source of ongoing fevers and has shown
   reasonable evidence of improvement or clearing of the endocarditis
   based on TEE and blood cultures.
   1)Respiratory Failure-Patient has continued excellent control of volume
   overload--with weaning of lasix dosing required in the setting of
   hyptension and severe contraction alkalosis which has been controlled
   -Patient with continued secretions limiting move to extubation
   primarily
   -Will Rx Acinetobacter Pneumonia
   -Tobramycin to continue with increased dosing given low peaks
   -Will continue with Sopalamine patch to continue to control secretion
   as possible--would hold on TCA Rx as well
   -Hope to move to extubation but will need Trach as needed based on
   progress over weekend
   2)Sepsis-
   -Continue wtih antibiotics--for endocarditis
   -BP stable
   -Temp controlled of late
   Additional notes as per housestaff note of this date to continue
   management of additional active issues and will continue to treat
   Parkinson's Disease with dopaminergic agonists.
 SHOCK, SEPTIC
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Fluid Overload.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-11-16**] 01:21 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: Bundle in Place
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2168-11-26 05:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
     * still with copious secretions
     * residuals w/soft abdomen - started reglan 10mg Q6h.
     * tobra dose increased, will need trough level Monday night/Tuesday
       early morning - before 4th dose.
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Antibiotics:
   Tobramycin
   Vancomycin
   Ampicillin/Sulbactam (Unasyn) -
   Infusions:
   Fentanyl - 60 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-11-25**] 10:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-11-26**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 97 (71 - 103) bpm
   BP: 129/79(91) {90/53(62) - 155/87(101)} mmHg
   RR: 17 (16 - 37) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 24 (5 - 24)mmHg
   Total In:
                                                                  2,565 mL
                                                                    717 mL
   PO:
   TF:
                                                                    968 mL
                                                                    127 mL
   IVF:
                                                                    837 mL
                                                                    440 mL
   Blood products:
   Total out:
                                                                  2,420 mL
                                                                    580 mL
   Urine:
                                                                  2,420 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    145 mL
                                                                    137 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 535 (358 - 535) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: ///35/
   Ve: 9.3 L/min
   Physical Examination
   General Appearance: Overweight / Obese. ETT and NGT in place.  Sleepy
   but rousible, comfortable.
   Eyes / Conjunctiva: PERRL, anicteric
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: normal s1/s2, [**3-10**] early systolic  murmur best heard at
   the base
   Peripheral Vascular: 2+ pulses DP/PT, radial
   Respiratory / Chest: coarse breath sounds bilaterally with some
   crackles, more pronounced since yesterday.
   Abdominal: Soft, non-tender, non-distended. Bowel sounds present,
   Obese, umbilical hernia -reducible
   Extremities: Right: Trace edema, Left: Trace edema. Bilateral UE tremor
   Skin:  Warm, no jaundice
   Neurologic: follows simple commands.  Opens eyes to voice.  Moves all 4
   limbs, answering questions.
   Labs / Radiology
   245 K/uL
   9.7 g/dL
   149 mg/dL
   1.6 mg/dL
   35 mEq/L
   4.4 mEq/L
   30 mg/dL
   101 mEq/L
   143 mEq/L
   30.1 %
   9.2 K/uL
        [image002.jpg]
                            [**2168-11-22**]  03:15 PM
                            [**2168-11-22**]  05:06 PM
                            [**2168-11-23**]  01:32 AM
                            [**2168-11-23**]  02:58 AM
                            [**2168-11-23**]  07:24 AM
                            [**2168-11-23**]  03:36 PM
                            [**2168-11-24**]  02:11 AM
                            [**2168-11-24**]  05:49 AM
                            [**2168-11-25**]  03:42 AM
                            [**2168-11-26**]  03:05 AM
   WBC
   9.9
   7.8
   9.2
   9.2
   Hct
   28.9
   28.8
   29.9
   30.1
   Plt
   247
   249
   261
   245
   Cr
   1.6
   1.6
   1.6
   1.4
   1.6
   TCO2
   39
   41
   42
   40
   40
   Glucose
   223
   167
   177
   160
   149
   Other labs:
   Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   BCx all negative except [**11-23**] which is pending
   Assessment and Plan
   66 yo M with PMH of DM2, CRI, recent subdural hematomas and bacteremia
   who presents from rehab with altered mental status and fevers.
   #1 Pneumonia/Failure to Wean: intubated for airway protection but
   complicated by acinetobater pneumonia and pulmonary edema.  Pt may have
   some muscular weakness, due to prolonged illness and multiple
   intubations.  Tolerating SBT well but still w/copious secretions.
   Character of secretions has changed: now more pink/frothy, less
   thick/yellow. In setting of AR, could represent pulmonary edema.
   - scopolamine patch to decrease secretions
   - treat with Tobramcyin and Unasyn for 14 day course as per ID, started
   [**2168-11-18**] (today is day 7 of 14)
   - Increased Tobra dose to 300mg, will re-check trough after 3 doses and
   follow Cr closely.
   - lasix boluses over weekend (following Cr closely), if does not
   improve secretions, consider repeat echo, re-eval by CT surgery for
   AVR.
   .
   #2 Endocarditis with AR: Pt is being treated with broad-spectrum
   antibiotics, but no evidence of active infection.  CT surgery consulted
   and  surgery not necessary at this time.  Unclear whether ID feels that
   this has already been adequately treated already, and ECHO does not
   clearly show persistent endocarditis. Last note from ID states they are
   following up with echo attending to review echo results regarding
   chronicity of infection vs old healed endocarditis.
   - vancomycin for 2 v 4 week course per ID
 will follow ID recs.  Today
   is 11 of vancomycin at [**Hospital1 5**].
   #3 CVA: likely embolic stroke on MRI, either from endocarditis, or
   atheroembolic. U/S of carotids negative.
   - aspirin (no heparin or statin needed)
   - neurology  to follow
   .
   #4  altered mental status: Likely secondary to infection.  Appears to
   be improving today.  Head CT and MRI do not explain AMS as per
   neurology.  Improving mental status
 patient able to answer questions
   today.  Have considered LP; however MS improving.
   -use limited sedation
   -daily wake up trials while intubated to assess mental status
   -as patient
s infection is adequately treated, will be able to better
   assess patient
s mental status
   .
   # chronic renal insufficiency stage 4: Cr baseline 1.3-1.4 earlier this
   year.
   -continue calcitriol
   -renally dose medications, including vanco and tobra
   -monitor Cr
   # CAD: continue asa. Hold BB and [**Last Name (un) **] for now unless more hypertensive.
   # hx HTN: holding losartan and metoprolol for now. Will add back as
   needed.
   # DM2: using ISS
   # hypothyroidism: continue levothyroxine
   # Parkinsons Disease: continue carbidopa/levodopa and requip.
   # FEN: Diabetic tube feeds.  replete lytes
   # PPX: heparin SQ for DVT ppx, PPI per home regimen, bowel regimen,
   aspiration, fall, and MRSA precautions.
   # code status: full confirmed with wife
   # Access: right subclavian placed [**2168-11-15**]. To consider PICC if central
   line begins to look infected or if blood cultures come up positive.
   # Comm: wife [**Name (NI) 625**] [**Telephone/Fax (1) 2577**] (H); [**Telephone/Fax (1) 2578**] (C)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-11-25**] 11:43 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-11-16**] 01:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-11-27 05:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - ID recs: 6w of vanco from [**11-9**]; 2w of tobra/unasyn for acinobacter
   - lasix gtt started with I/O goal -2L (-1.7) - stopped due to low BP
   with MAPs ~60
   - repeat ECHO ordered to reeval AR
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Tobramycin - [**2168-11-27**] 01:00 AM
   Vancomycin - [**2168-11-27**] 02:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2168-11-27**] 04:00 AM
   Infusions:
   Fentanyl - 60 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2168-11-26**] 09:26 AM
   Fentanyl - [**2168-11-26**] 06:08 PM
   Heparin Sodium (Prophylaxis) - [**2168-11-26**] 10:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-11-27**] 05:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 92 (78 - 111) bpm
   BP: 84/46(55) {84/46(55) - 146/97(109)} mmHg
   RR: 13 (12 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 12 (4 - 18)mmHg
   Total In:
                                                                  2,784 mL
                                                                  1,194 mL
   PO:
   TF:
                                                                  1,009 mL
                                                                    371 mL
   IVF:
                                                                  1,005 mL
                                                                    523 mL
   Blood products:
   Total out:
                                                                  4,575 mL
                                                                    845 mL
   Urine:
                                                                  4,575 mL
                                                                    845 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,791 mL
                                                                    349 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 553 (456 - 571) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 21
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///37/
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: Overweight / Obese. ETT and NGT in place.  Sleepy
   but rousible, comfortable.
   Eyes / Conjunctiva: PERRL, anicteric
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: normal s1/s2, [**3-10**] early systolic  murmur best heard at
   the base
   Peripheral Vascular: 2+ pulses DP/PT, radial
   Respiratory / Chest: coarse breath sounds bilaterally with some
   crackles, more pronounced since yesterday.
   Abdominal: Soft, non-tender, non-distended. Bowel sounds present,
   Obese, umbilical hernia -reducible
   Extremities: Right: Trace edema, Left: Trace edema. Bilateral UE tremor
   Skin:  Warm, no jaundice
   Neurologic: follows simple commands.  Opens eyes to voice.  Moves all 4
   limbs, answering questions.
   Labs / Radiology
   271 K/uL
   9.7 g/dL
   190 mg/dL
   1.5 mg/dL
   37 mEq/L
   3.9 mEq/L
   26 mg/dL
   97 mEq/L
   141 mEq/L
   30.7 %
   8.9 K/uL
        [image002.jpg]
                            [**2168-11-23**]  01:32 AM
                            [**2168-11-23**]  02:58 AM
                            [**2168-11-23**]  07:24 AM
                            [**2168-11-23**]  03:36 PM
                            [**2168-11-24**]  02:11 AM
                            [**2168-11-24**]  05:49 AM
                            [**2168-11-25**]  03:42 AM
                            [**2168-11-26**]  03:05 AM
                            [**2168-11-26**]  06:05 PM
                            [**2168-11-27**]  04:13 AM
   WBC
   9.9
   7.8
   9.2
   9.2
   8.9
   Hct
   28.9
   28.8
   29.9
   30.1
   30.7
   Plt
   247
   249
   261
   245
   271
   Cr
   1.6
   1.6
   1.6
   1.4
   1.6
   1.5
   1.5
   TCO2
   42
   40
   40
   Glucose
   223
   167
   177
   160
   149
   148
   190
   Other labs: PT / PTT / INR:15.9/42.8/1.4, CK / CKMB /
   Troponin-T:33//0.03, ALT / AST:[**3-24**], Alk Phos / T Bili:89/0.5, Amylase
   / Lipase:/13, Differential-Neuts:89.0 %, Lymph:5.5 %, Mono:2.2 %,
   Eos:3.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL, LDH:203 IU/L,
   Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   66 yo M with PMH of DM2, CRI, recent subdural hematomas and bacteremia
   who presents from rehab with altered mental status and fevers.
   #1 Pneumonia/Failure to Wean: intubated for airway protection but
   complicated by acinetobater pneumonia and pulmonary edema.  Pt may have
   some muscular weakness, due to prolonged illness and multiple
   intubations.  Tolerating SBT well but still w/copious secretions.
   Character of secretions has changed: now more pink/frothy, less
   thick/yellow. In setting of AR, could represent pulmonary edema.
   - scopolamine patch to decrease secretions
   - treat with Tobramcyin and Unasyn for 14 day course as per ID, started
   [**2168-11-18**] (today is day 7 of 14)
   - Increased Tobra dose to 300mg, will re-check trough after 3 doses and
   follow Cr closely.
   - lasix boluses over weekend (following Cr closely), if does not
   improve secretions, consider repeat echo, re-eval by CT surgery for
   AVR.
   .
   #2 Endocarditis with AR: Pt is being treated with broad-spectrum
   antibiotics, but no evidence of active infection.  CT surgery consulted
   and  surgery not necessary at this time.  Unclear whether ID feels that
   this has already been adequately treated already, and ECHO does not
   clearly show persistent endocarditis. Last note from ID states they are
   following up with echo attending to review echo results regarding
   chronicity of infection vs old healed endocarditis.
   - vancomycin for 2 v 4 week course per ID
 will follow ID recs.  Today
   is 11 of vancomycin at [**Hospital1 5**].
   #3 CVA: likely embolic stroke on MRI, either from endocarditis, or
   atheroembolic. U/S of carotids negative.
   - aspirin (no heparin or statin needed)
   - neurology  to follow
   .
   #4  altered mental status: Likely secondary to infection.  Appears to
   be improving today.  Head CT and MRI do not explain AMS as per
   neurology.  Improving mental status
 patient able to answer questions
   today.  Have considered LP; however MS improving.
   -use limited sedation
   -daily wake up trials while intubated to assess mental status
   -as patient
s infection is adequately treated, will be able to better
   assess patient
s mental status
   .
   # chronic renal insufficiency stage 4: Cr baseline 1.3-1.4 earlier this
   year.
   -continue calcitriol
   -renally dose medications, including vanco and tobra
   -monitor Cr
   # CAD: continue asa. Hold BB and [**Last Name (un) **] for now unless more hypertensive.
   # hx HTN: holding losartan and metoprolol for now. Will add back as
   needed.
   # DM2: using ISS
   # hypothyroidism: continue levothyroxine
   # Parkinsons Disease: continue carbidopa/levodopa and requip.
   # FEN: Diabetic tube feeds.  replete lytes
   # PPX: heparin SQ for DVT ppx, PPI per home regimen, bowel regimen,
   aspiration, fall, and MRSA precautions.
   # code status: full confirmed with wife
   # Access: right subclavian placed [**2168-11-15**]. To consider PICC if central
   line begins to look infected or if blood cultures come up positive.
   # Comm: wife [**Name (NI) 625**] [**Telephone/Fax (1) 2577**] (H); [**Telephone/Fax (1) 2578**] (C)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-11-26**] 11:10 PM 65 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-11-16**] 01:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-11-28 05:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2168-11-27**] 02:33 PM
 MULTI LUMEN - STOP [**2168-11-27**] 04:47 PM
   Pt had PICC line inserted yesterday, pulled central line.
   On Lasix gtt with good diuresis, briefly stopped overnight for
   hypotension.
   This morning, Lasix gtt less effective, Creatinine up slightly.
   FYI:
   Goal to extubate this morning
   Echo ordered for ?fluid overload, CHF
   CXR this morning
   Concern that this was ?difficult intubation; no intubation note found
   in chart (was intubated in ED for airway protection)
   F/U tobra levels from trough and peak
   [**Year (4 digits) 2601**] trough ordered for tomorrow [**11-29**] AM dose
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2168-11-27**] 02:00 AM
   Tobramycin - [**2168-11-28**] 01:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2168-11-28**] 04:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2168-11-27**] 05:05 PM
   Fentanyl - [**2168-11-27**] 05:22 PM
   Heparin Sodium (Prophylaxis) - [**2168-11-27**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-11-28**] 05:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 80 (79 - 108) bpm
   BP: 117/69(81) {86/48(56) - 153/91(106)} mmHg
   RR: 13 (12 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 11 (7 - 14)mmHg
   Total In:
                                                                  2,413 mL
                                                                    577 mL
   PO:
   TF:
                                                                    399 mL
   IVF:
                                                                  1,254 mL
                                                                    377 mL
   Blood products:
   Total out:
                                                                  4,525 mL
                                                                    610 mL
   Urine:
                                                                  4,525 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,112 mL
                                                                    -33 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 535 (534 - 592) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///39/
   Ve: 7.4 L/min
   Physical Examination
   General Appearance: Overweight / Obese. ETT and NGT in place.  Sleepy
   but rousible, comfortable.
   Eyes / Conjunctiva: PERRL, anicteric
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: normal s1/s2, [**3-10**] early systolic  murmur best heard at
   the base
   Peripheral Vascular: 2+ pulses DP/PT, radial
   Respiratory / Chest: coarse breath sounds bilaterally with some
   crackles, more pronounced since yesterday.
   Abdominal: Soft, non-tender, non-distended. Bowel sounds present,
   Obese, umbilical hernia -reducible
   Extremities: Right: Trace edema, Left: Trace edema. Bilateral UE tremor
   Skin:  Warm, no jaundice
   Neurologic: follows simple commands.  Opens eyes to voice.  Moves all 4
   limbs, answering questions.
   Labs / Radiology
   253 K/uL
   9.6 g/dL
   177 mg/dL
   1.6 mg/dL
   39 mEq/L
   3.9 mEq/L
   26 mg/dL
   96 mEq/L
   141 mEq/L
   30.2 %
   8.3 K/uL
        [image002.jpg]
                            [**2168-11-23**]  07:24 AM
                            [**2168-11-23**]  03:36 PM
                            [**2168-11-24**]  02:11 AM
                            [**2168-11-24**]  05:49 AM
                            [**2168-11-25**]  03:42 AM
                            [**2168-11-26**]  03:05 AM
                            [**2168-11-26**]  06:05 PM
                            [**2168-11-27**]  04:13 AM
                            [**2168-11-27**]  04:30 PM
                            [**2168-11-28**]  02:53 AM
   WBC
   7.8
   9.2
   9.2
   8.9
   8.3
   Hct
   28.8
   29.9
   30.1
   30.7
   30.2
   Plt
   249
   261
   245
   271
   253
   Cr
   1.6
   1.6
   1.4
   1.6
   1.5
   1.5
   1.5
   1.6
   TCO2
   40
   40
   Glucose
   167
   177
   160
   149
   148
   190
   153
   177
   Other labs: PT / PTT / INR:15.9/42.8/1.4, CK / CKMB /
   Troponin-T:33//0.03, ALT / AST:[**3-24**], Alk Phos / T Bili:89/0.5, Amylase
   / Lipase:/13, Differential-Neuts:89.0 %, Lymph:5.5 %, Mono:2.2 %,
   Eos:3.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL, LDH:203 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   66 yo M with PMH of DM2, CRI, recent subdural hematomas and bacteremia
   who presents from rehab with altered mental status and fevers.
   #1 Pneumonia/Failure to Wean: intubated for airway protection but
   complicated by acinetobater pneumonia and pulmonary edema.  Pt may have
   some muscular weakness, due to prolonged illness and multiple
   intubations.  Tolerating SBT well and secretions are decreasing, now
   more pink/frothy, less thick/yellow, may represent pulmonary edema.
   - treat with Tobramcyin and Unasyn for 14 day course as per ID, started
   [**2168-11-20**] (through [**2168-12-4**])
   - Increased Tobra dose to 300mg, will re-check peak & trough tonight
   and follow Cr closely.
   - good response to lasix gtt on [**11-26**], will continue.
   - CHF consult on Monday
   - will consider extubation tomorrow if able to diurese further &
   secretions continue to improve
   .
   #2 Endocarditis with AR: Pt is being treated with broad-spectrum
   antibiotics, but no evidence of active infection.  CT surgery consulted
   and  surgery not necessary at this time.  ID recommends 6 week course
   of vanco following positive blood culture with [**First Name9 (NamePattern2) **] [**Last Name (un) 46**]. Enterococcus
   with Day 1 = [**2168-11-9**].
   - vancomycin for 6 week course D1 = [**2168-11-9**]
   - ECHO to re-eval valve given CHF/pulmonary edema
   #3 CVA: likely embolic stroke on MRI, either from endocarditis, or
   atheroembolic. U/S of carotids negative.
   - aspirin (no heparin or statin needed)
   - neurology  to follow
   .
   #4  altered mental status: Likely secondary to infection.  Appears to
   be improving today.  Head CT and MRI do not explain AMS as per
   neurology.  Improving mental status
 patient able to answer questions
   today.  Have considered LP; however MS improving.
   -use limited sedation
   -daily wake up trials while intubated to assess mental status
   -as patient
s infection is adequately treated, will be able to better
   assess patient
s mental status
   .
   # chronic renal insufficiency stage 4: Cr baseline 1.3-1.4 earlier this
   year.
   -continue calcitriol
   -renally dose medications, including vanco and tobra
   -monitor Cr
   # CAD: continue asa. Hold BB and [**Last Name (un) **] for now unless more hypertensive.
   # hx HTN: holding losartan and metoprolol for now. Will add back as
   needed.
   # DM2: using ISS
   # hypothyroidism: continue levothyroxine
   # Parkinsons Disease: continue carbidopa/levodopa and requip.
   # FEN: Diabetic tube feeds.  replete lytes
   # PPX: heparin SQ for DVT ppx, PPI per home regimen, bowel regimen,
   aspiration, fall, and MRSA precautions.
   # code status: full confirmed with wife
   # Access: right subclavian placed [**2168-11-15**].  PICC ordered.
   # Comm: wife [**Name (NI) 625**] [**Telephone/Fax (1) 2577**] (H); [**Telephone/Fax (1) 2578**] (C)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2168-11-27**] 02:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-11-28 11:52:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   66 yo man with recent endocarditis with strep bovis, was at rehab when
   he developed respiratory distress/acinetobacter PNA.  Treated with
   tobra and unasyn and has improved, but has been difficult to wean.
   Recent echo with healed AV vegitation.
   24 Hour Events:
 PICC LINE - START [**2168-11-27**] 02:33 PM
 MULTI LUMEN - STOP [**2168-11-27**] 04:47 PM
   Had diuresed, with SBT this AM doing well.
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2168-11-27**] 02:00 AM
   Tobramycin - [**2168-11-28**] 01:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2168-11-28**] 10:05 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2168-11-27**] 05:05 PM
   Fentanyl - [**2168-11-27**] 05:22 PM
   Heparin Sodium (Prophylaxis) - [**2168-11-28**] 06:00 AM
   Other medications:
   carbidop/levodopa
   asa
   prevacid
   b6
   atrovent
   chlorhex
   lasix 5mg/hr
   free H20
   reglan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea, ventilated
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2168-11-28**] 11:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.1
   HR: 100 (79 - 112) bpm
   BP: 144/81(96) {86/48(56) - 159/91(106)} mmHg
   RR: 16 (12 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 11 (8 - 11)mmHg
   Total In:
                                                                  5,626 mL
                                                                  1,628 mL
   PO:
   TF:
                                                                  3,612 mL
                                                                    390 mL
   IVF:
                                                                  1,254 mL
                                                                    613 mL
   Blood products:
   Total out:
                                                                  4,525 mL
                                                                  1,755 mL
   Urine:
                                                                  4,525 mL
                                                                  1,755 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,101 mL
                                                                   -127 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 339 (339 - 592) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 6 cmH2O
   SpO2: 98%
   ABG: ///39/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, slow to respond.
   Labs / Radiology
   9.6 g/dL
   253 K/uL
   177 mg/dL
   1.6 mg/dL
   39 mEq/L
   3.9 mEq/L
   26 mg/dL
   96 mEq/L
   141 mEq/L
   30.2 %
   8.3 K/uL
        [image002.jpg]
                            [**2168-11-23**]  07:24 AM
                            [**2168-11-23**]  03:36 PM
                            [**2168-11-24**]  02:11 AM
                            [**2168-11-24**]  05:49 AM
                            [**2168-11-25**]  03:42 AM
                            [**2168-11-26**]  03:05 AM
                            [**2168-11-26**]  06:05 PM
                            [**2168-11-27**]  04:13 AM
                            [**2168-11-27**]  04:30 PM
                            [**2168-11-28**]  02:53 AM
   WBC
   7.8
   9.2
   9.2
   8.9
   8.3
   Hct
   28.8
   29.9
   30.1
   30.7
   30.2
   Plt
   249
   261
   245
   271
   253
   Cr
   1.6
   1.6
   1.4
   1.6
   1.5
   1.5
   1.5
   1.6
   TCO2
   40
   40
   Glucose
   167
   177
   160
   149
   148
   190
   153
   177
   Other labs: PT / PTT / INR:15.9/42.8/1.4, CK / CKMB /
   Troponin-T:33//0.03, ALT / AST:[**3-24**], Alk Phos / T Bili:89/0.5, Amylase
   / Lipase:/13, Differential-Neuts:89.0 %, Lymph:5.5 %, Mono:2.2 %,
   Eos:3.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL, LDH:203 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]) - Acinetobacter PNA:
   continue two week course of antibiotics.  Can attempt extubation today.
   Systolic Heart Failure with Aortic insufficiency.
   Fever/sepsis: resolved
   Endocarditis:  MRSA and enterococcal bacteremia being treated as
   another bout of endocarditis.  Adjust vanco dose.
 Chronic renal failure
   Parkinson's Disease
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Fluid Overload improved, continue lasix drip.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2168-11-27**] 02:33 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2168-11-29 05:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2168-11-28**] 12:00 PM
     * Extubated, did well. Post-extubation gas 7.46/60/103/44/15. On face
       [**Year (4 digits) 1269**] on ON, O2 sats stable
     * Needs restraints on arms so does not pull out lines (has habit of
       doing so)
     * CHF consult for tomorrow?
     * S&S eval ordered
     * w/shovel [**Last Name (LF) 1269**], [**First Name3 (LF) 124**] desat to 85% when asleep
 likely needs bipap
       at night (is in record but family says he takes it off)
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Tobramycin - [**2168-11-28**] 01:00 AM
   Vancomycin - [**2168-11-29**] 02:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2168-11-29**] 04:20 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-11-28**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-11-29**] 05:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.8
   HR: 107 (90 - 112) bpm
   BP: 130/72(87) {130/72(87) - 192/114(132)} mmHg
   RR: 20 (12 - 33) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,155 mL
                                                                    366 mL
   PO:
             TF:
                                                                    390 mL
   IVF:
                                                                  1,019 mL
                                                                    366 mL
   Blood products:
   Total out:
                                                                  4,360 mL
                                                                    740 mL
   Urine:
                                                                  4,360 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,205 mL
                                                                   -374 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 339 (339 - 339) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 6 cmH2O
   SpO2: 91%
   ABG: 7.46/60/103/41/15
   Ve: 7.8 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General Appearance: Overweight / Obese. ETT and NGT in place.  Sleepy
   but rousible, comfortable.
   Eyes / Conjunctiva: PERRL, anicteric
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: normal s1/s2, [**3-10**] early systolic  murmur best heard at
   the base
   Respiratory / Chest: minimal coarse breath sounds b/l.  Decreased b/s
   on R>L
   Abdominal: Soft, non-tender, non-distended. Bowel sounds present, Obese
   Extremities: Right: Trace edema, Left: Trace edema. Bilateral UE tremor
   Skin:  Warm, no jaundice
   Neurologic: follows simple commands.  Opens eyes to voice.  Moves all 4
   limbs, answering questions w/head nod or shake.
   Labs / Radiology
   283 K/uL
   10.7 g/dL
   160 mg/dL
   1.6 mg/dL
   41 mEq/L
   3.9 mEq/L
   27 mg/dL
   96 mEq/L
   143 mEq/L
   32.2 %
   8.9 K/uL
        [image002.jpg]
                            [**2168-11-24**]  05:49 AM
                            [**2168-11-25**]  03:42 AM
                            [**2168-11-26**]  03:05 AM
                            [**2168-11-26**]  06:05 PM
                            [**2168-11-27**]  04:13 AM
                            [**2168-11-27**]  04:30 PM
                            [**2168-11-28**]  02:53 AM
                            [**2168-11-28**]  03:59 PM
                            [**2168-11-28**]  05:22 PM
                            [**2168-11-29**]  03:27 AM
   WBC
   9.2
   9.2
   8.9
   8.3
   8.9
   Hct
   29.9
   30.1
   30.7
   30.2
   32.2
   Plt
   261
   245
   271
   253
   283
   Cr
   1.4
   1.6
   1.5
   1.5
   1.5
   1.6
   1.7
   1.6
   TCO2
   40
   44
   Glucose
   160
   149
   148
   190
   153
   177
   140
   160
   Other labs: PT / PTT / INR:16.4/43.3/1.5, CK / CKMB /
   Troponin-T:33//0.03, ALT / AST:[**3-24**], Alk Phos / T Bili:89/0.5, Amylase
   / Lipase:/13, Differential-Neuts:89.0 %, Lymph:5.5 %, Mono:2.2 %,
   Eos:3.2 %, Lactic Acid:0.8 mmol/L, Albumin:2.7 g/dL, LDH:203 IU/L,
   Ca++:9.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   ECHO:The left atrium is mildly dilated. There is mild symmetric left
   ventricular hypertrophy with normal cavity size. There is mild regional
   left ventricular systolic dysfunction with focal hypokinesis of the
   distal half of the septum. The remaining segments contract normally
   (LVEF = 50 %).Right ventricular chamber size and free wall motion are
   normal. The aortic valve leaflets are moderately thickened. A
   vegetation is suggested but cannot be confirmed due to suboptimal image
   quality. There is moderate to severe aortic valve stenosis. Mild (1+)
   aortic regurgitation is seen. The mitral valve leaflets are
   structurally normal. There is no mitral valve prolapse. Mild (1+)
   mitral regurgitation is seen. Significant pulmonic regurgitation is
   seen. There is a trivial/physiologic pericardial effusion.
   Assessment and Plan
   66 yo M with PMH of DM2, CRI, recent subdural hematomas and bacteremia
   who presents from rehab with altered mental status and fevers.
   #1 Pneumonia: intubated for airway protection but complicated by
   acinetobater pneumonia and pulmonary edema.  Prolonged intubation due
   to secretions, PNA, pulmonary edema and likely some respiratory muscle
   weakness, but was extubated successfully on [**2168-11-28**].   Was diuresed
   effectively yesterday w/lasix gtt.
   - treat PNA with Tobramcyin and Unasyn for 14 day course as per ID,
   started [**2168-11-20**] (through [**2168-12-4**])
   - Tobra dosing changed to q48H per pharmacy
   - good response to lasix gtt yesterday, will continue with goal as
   negative as possible
   - will hold on CHF consult as pt has been improving clinically with
   diuresis
   .
   #2 Echo with focal wall motion abnormalities: These are new from prior
   echo (TEE on [**2168-11-17**]) although per cardiology this was a poor study.
   Likely ischemic in origin but unknown exactly when this occurred.
   - pt is on aspirin, will start statin and low-dose b-blocker
   (metoprolol 12.5 mg PO BID) for CAD and likely NSTEMI
   - continue supportive care with medical management and secondary
   prevention of CAD
   .
   #3 Endocarditis with AR: CT surgery consulted and  surgery not
   necessary at this time however pt will need cardiology follow-up and
   likely surgery in the future once recovered from acute illness.  ID
   recommends 6 week course of vanco following positive blood culture with
   [**First Name9 (NamePattern2) **] [**Last Name (un) 46**]. Enterococcus with Day 1 = [**2168-11-9**].
   - vancomycin for 6 week course D1 = [**2168-11-9**], last day = [**2168-12-21**]
   #4 CVA: likely embolic stroke on MRI, either from endocarditis, or
   atheroembolic. U/S of carotids negative.
   - aspirin per neurology
   .
   #5  altered mental status: Likely secondary to infection and medical
   delirium from being in ICU.  Appears to be improving.  Head CT and MRI
   do not explain AMS as per neurology.  Have considered LP; however MS
   improving.  Pt is not on sedating medication.
   -continue to manage medical and monitor
   - limit any sedating medications (pt currently not getting any)
   .
   #6 chronic renal insufficiency stage 4: Cr baseline 1.3-1.4 earlier
   this year.
   -continue calcitriol
   -renally dose medications, including vanco and tobra
   -monitor Cr, especially with diuresis.
   #7 DM2: using ISS
   #8 hypothyroidism: continue levothyroxine
   #9 Parkinsons Disease: continue carbidopa/levodopa and requip.
   #10 FEN: per nutrition, ground solids, nectar thickened liquids, speech
   and swallow to re-evaluate on friday
   # PPX: heparin SQ for DVT ppx, PPI per home regimen, bowel regimen,
   aspiration, fall, and MRSA precautions.
   # code status: full confirmed with wife
   # Access: PICC
   # Comm: wife [**Name (NI) 625**] [**Telephone/Fax (1) 2577**] (H); [**Telephone/Fax (1) 2578**] (C)
   # Dispo: speak with CM regarding rehab placement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2168-11-27**] 02:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-11-29 11:16:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   66 yo man recent endocarditis, respiratory failure, HAP.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2168-11-28**] 12:00 PM
   Extubated yesterday and doing well.
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Tobramycin - [**2168-11-28**] 01:00 AM
   Vancomycin - [**2168-11-29**] 02:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2168-11-29**] 04:20 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Other medications:
   levoxyl
   calcitriol
   FeSO4
   SSI
   hep s/q
   asa
   prevacid
   tobramycin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-11-29**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (96.9
   HR: 101 (90 - 107) bpm
   BP: 156/86(101) {130/72(87) - 192/114(132)} mmHg
   RR: 23 (12 - 33) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,155 mL
                                                                    676 mL
   PO:
             TF:
                                                                    390 mL
   IVF:
                                                                  1,019 mL
                                                                    436 mL
   Blood products:
   Total out:
                                                                  4,360 mL
                                                                  1,390 mL
   Urine:
                                                                  4,360 mL
                                                                  1,390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,205 mL
                                                                   -714 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   FiO2: 50%
   SpO2: 91%
   ABG: 7.46/60/103/41/15
   PaO2 / FiO2: 206
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: bases, Rhonchorous:
   mildly, b/l)
   Abdominal: Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): name only, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   10.7 g/dL
   283 K/uL
   160 mg/dL
   1.6 mg/dL
   41 mEq/L
   3.9 mEq/L
   27 mg/dL
   96 mEq/L
   143 mEq/L
   32.2 %
   8.9 K/uL
         [image002.jpg]
                            [**2168-11-24**]  05:49 AM
                            [**2168-11-25**]  03:42 AM
                            [**2168-11-26**]  03:05 AM
                            [**2168-11-26**]  06:05 PM
                            [**2168-11-27**]  04:13 AM
                            [**2168-11-27**]  04:30 PM
                            [**2168-11-28**]  02:53 AM
                            [**2168-11-28**]  03:59 PM
                            [**2168-11-28**]  05:22 PM
                            [**2168-11-29**]  03:27 AM
   WBC
   9.2
   9.2
   8.9
   8.3
   8.9
   Hct
   29.9
   30.1
   30.7
   30.2
   32.2
   Plt
   261
   245
   271
   253
   283
   Cr
   1.4
   1.6
   1.5
   1.5
   1.5
   1.6
   1.7
   1.6
   TCO2
   40
   44
   Glucose
   160
   149
   148
   190
   153
   177
   140
   160
   Other labs: PT / PTT / INR:16.4/43.3/1.5, CK / CKMB /
   Troponin-T:33//0.03, ALT / AST:[**3-24**], Alk Phos / T Bili:89/0.5, Amylase
   / Lipase:/13, Differential-Neuts:89.0 %, Lymph:5.5 %, Mono:2.2 %,
   Eos:3.2 %, Lactic Acid:0.8 mmol/L, Albumin:2.7 g/dL, LDH:203 IU/L,
   Ca++:9.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Acute on chronic systolic heart failure:  continue lasix drip.  Echo
   yesterday with EF 50%, with new focal WMA.  Will treat medically for
   CAD.
   Acinetobacter PNA:  Continue tobra/unasyn for 10 days.
   Endocarditis:  continue Vanco.
   Respiratory Failure:  Improved, wean nasal canula.
   PT consult.
   ICU Care
   Nutrition:
   Comments: Advance diet
   Glycemic Control:
   Lines:
   PICC Line - [**2168-11-27**] 02:33 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2168-11-30 05:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - metoprolol & atorvastatin started for wall motion abnormality
   - cont. diuresis
   - has rehab bed at [**Hospital 858**] Rehab
   - diet advanced as per S&S recs
   - on nasal cpap last night
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Antibiotics:
   Tobramycin
   Vancomycin
   Ampicillin/Sulbactam (Unasyn)
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-11-29**] 10:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: no complaints
   Flowsheet Data as of  [**2168-11-30**] 05:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.8
C (96.5
   HR: 83 (83 - 109) bpm
   BP: 131/71(86) {114/62(76) - 162/95(122)} mmHg
   RR: 30 (15 - 30) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,397 mL
                                                                    374 mL
   PO:
             TF:
   IVF:
                                                                    917 mL
                                                                    374 mL
   Blood products:
   Total out:
                                                                  3,235 mL
                                                                    830 mL
   Urine:
                                                                  3,235 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,838 mL
                                                                   -456 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///39/
   Physical Examination
   General Appearance: Overweight / Obese. Sleepy but rousible,
   comfortable. Impressive upper airway noise.
   Eyes / Conjunctiva: PERRL, anicteric
   Head, Ears, Nose, Throat: NCAT. Copious secretions
   Cardiovascular: RRR, difficult to hear heart sounds over transmitted
   upper airway noise.
   Respiratory / Chest: CTA B/L, again difficult to hear sounds over
   transmitted upper airway noise.
   Abdominal: Soft, non-tender, non-distended. Bowel sounds present, Obese
   Extremities: Right: No edema b/l. Bilateral UE tremor
   Skin:  Warm, no jaundice
   Neurologic: Awake but oriented only to self.  Follows simple commands.
   Opens eyes to voice.  Moves all 4 limbs, answering questions w/head nod
   or shake.
   Labs / Radiology
   277 K/uL
   11.3 g/dL
   177 mg/dL
   1.7 mg/dL
   39 mEq/L
   3.5 mEq/L
   26 mg/dL
   95 mEq/L
   143 mEq/L
   34.3 %
   9.8 K/uL
        [image002.jpg]
                            [**2168-11-26**]  03:05 AM
                            [**2168-11-26**]  06:05 PM
                            [**2168-11-27**]  04:13 AM
                            [**2168-11-27**]  04:30 PM
                            [**2168-11-28**]  02:53 AM
                            [**2168-11-28**]  03:59 PM
                            [**2168-11-28**]  05:22 PM
                            [**2168-11-29**]  03:27 AM
                            [**2168-11-29**]  03:07 PM
                            [**2168-11-30**]  03:01 AM
   WBC
   9.2
   8.9
   8.3
   8.9
   9.8
   Hct
   30.1
   30.7
   30.2
   32.2
   34.3
   Plt
   245
   271
   253
   283
   277
   Cr
   1.6
   1.5
   1.5
   1.5
   1.6
   1.7
   1.6
   1.6
   1.7
   TCO2
   44
   Glucose
   149
   148
   190
   153
   177
   140
   160
   181
   177
   Other labs: PT / PTT / INR:16.4/43.3/1.5, CK / CKMB /
   Troponin-T:33//0.03, ALT / AST:[**3-24**], Alk Phos / T Bili:89/0.5, Amylase
   / Lipase:/13, Differential-Neuts:89.0 %, Lymph:5.5 %, Mono:2.2 %,
   Eos:3.2 %, Lactic Acid:0.8 mmol/L, Albumin:2.7 g/dL, LDH:203 IU/L,
   Ca++:9.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   66 yo M with PMH of DM2, CRI, recent subdural hematomas and bacteremia
   who presents from rehab with altered mental status and fevers.
   #1 Pneumonia: intubated for airway protection but complicated by
   acinetobater pneumonia and pulmonary edema.  Prolonged intubation due
   to secretions, PNA, pulmonary edema and likely some respiratory muscle
   weakness, but was extubated successfully on [**2168-11-28**].   Was diuresed
   effectively yesterday w/lasix gtt.
   - treat PNA with Tobramcyin and Unasyn for 14 day course as per ID,
   started [**2168-11-20**] (through [**2168-12-4**])
   - Tobra dosing changed to q48H per pharmacy
   - good response to lasix gtt yesterday, will continue with goal as
   negative as possible
   - will hold on CHF consult as pt has been improving clinically with
   diuresis
   .
   #2 Echo with focal wall motion abnormalities: These are new from prior
   echo (TEE on [**2168-11-17**]) although per cardiology this was a poor study.
   Likely ischemic in origin but unknown exactly when this occurred.
   - pt is on aspirin, will start statin and low-dose b-blocker
   (metoprolol 12.5 mg PO BID) for CAD and likely NSTEMI
   - continue supportive care with medical management and secondary
   prevention of CAD
   .
   #3 Endocarditis with AR: CT surgery consulted and  surgery not
   necessary at this time however pt will need cardiology follow-up and
   likely surgery in the future once recovered from acute illness.  ID
   recommends 6 week course of vanco following positive blood culture with
   [**First Name9 (NamePattern2) **] [**Last Name (un) 46**]. Enterococcus with Day 1 = [**2168-11-9**].
   - vancomycin for 6 week course D1 = [**2168-11-9**], last day = [**2168-12-21**]
   #4 CVA: likely embolic stroke on MRI, either from endocarditis, or
   atheroembolic. U/S of carotids negative.
   - aspirin per neurology
   .
   #5  altered mental status: Likely secondary to infection and medical
   delirium from being in ICU.  Appears to be improving.  Head CT and MRI
   do not explain AMS as per neurology.  Have considered LP; however MS
   improving.  Pt is not on sedating medication.
   -continue to manage medical and monitor
   - limit any sedating medications (pt currently not getting any)
   .
   #6 chronic renal insufficiency stage 4: Cr baseline 1.3-1.4 earlier
   this year.
   -continue calcitriol
   -renally dose medications, including vanco and tobra
   -monitor Cr, especially with diuresis.
   #7 DM2: using ISS
   #8 hypothyroidism: continue levothyroxine
   #9 Parkinsons Disease: continue carbidopa/levodopa and requip.
   #10 FEN: per nutrition, ground solids, nectar thickened liquids, speech
   and swallow to re-evaluate on friday
   # PPX: heparin SQ for DVT ppx, PPI per home regimen, bowel regimen,
   aspiration, fall, and MRSA precautions.
   # code status: full confirmed with wife
   # Access: PICC
   # Comm: wife [**Name (NI) 625**] [**Telephone/Fax (1) 2577**] (H); [**Telephone/Fax (1) 2578**] (C)
   # Dispo: speak with CM regarding rehab placement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2168-11-27**] 02:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-11-30 10:36:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   66 yo man with recent AV endocarditis, presented with respiratory
   failure, acinetobacter PNA, extubated.
   24 Hour Events:
   Had portable sleep study titration with CPAP yesterday and did not
   desaturate.  Wore CPAP all night.
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Tobramycin - [**2168-11-28**] 01:00 AM
   Vancomycin - [**2168-11-30**] 02:15 AM
   Ampicillin/Sulbactam (Unasyn) - [**2168-11-30**] 04:30 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-11-30**] 06:28 AM
   Other medications:
   carbidopa/levodopa
   prevacid
   ssi
   reglan
   lasix
   lopressor
   lipitor
   levoxyl
   cacitriol
   FeSO4
   B12
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Psychiatric / Sleep: Daytime somnolence
   Flowsheet Data as of  [**2168-11-30**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 83 (83 - 109) bpm
   BP: 117/62(76) {108/60(72) - 154/95(122)} mmHg
   RR: 20 (15 - 30) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,397 mL
                                                                    443 mL
   PO:
             TF:
   IVF:
                                                                    917 mL
                                                                    443 mL
   Blood products:
   Total out:
                                                                  3,235 mL
                                                                  1,370 mL
   Urine:
                                                                  3,235 mL
                                                                  1,370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,838 mL
                                                                   -927 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///39/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): name, knows he is in hospital, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   277 K/uL
   177 mg/dL
   1.7 mg/dL
   39 mEq/L
   3.5 mEq/L
   26 mg/dL
   95 mEq/L
   143 mEq/L
   34.3 %
   9.8 K/uL
        [image002.jpg]
                            [**2168-11-26**]  03:05 AM
                            [**2168-11-26**]  06:05 PM
                            [**2168-11-27**]  04:13 AM
                            [**2168-11-27**]  04:30 PM
                            [**2168-11-28**]  02:53 AM
                            [**2168-11-28**]  03:59 PM
                            [**2168-11-28**]  05:22 PM
                            [**2168-11-29**]  03:27 AM
                            [**2168-11-29**]  03:07 PM
                            [**2168-11-30**]  03:01 AM
   WBC
   9.2
   8.9
   8.3
   8.9
   9.8
   Hct
   30.1
   30.7
   30.2
   32.2
   34.3
   Plt
   245
   271
   253
   283
   277
   Cr
   1.6
   1.5
   1.5
   1.5
   1.6
   1.7
   1.6
   1.6
   1.7
   TCO2
   44
   Glucose
   149
   148
   190
   153
   177
   140
   160
   181
   177
   Other labs: PT / PTT / INR:16.4/43.3/1.5, CK / CKMB /
   Troponin-T:33//0.03, ALT / AST:[**3-24**], Alk Phos / T Bili:89/0.5, Amylase
   / Lipase:/13, Differential-Neuts:89.0 %, Lymph:5.5 %, Mono:2.2 %,
   Eos:3.2 %, Lactic Acid:0.8 mmol/L, Albumin:2.7 g/dL, LDH:203 IU/L,
   Ca++:9.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Respiratory faiure:  Improved respiratory status.  But poor clearance
   of sputum and poor cough.
   Acinetobacter PNA:  completing course of unasyna and tobra today.
   Acute on chronic systolic HF:  Titrate beta-blockers, and start ACE
   inhibitor. Wean off lasix drip.
   Endocarditis:  Vancomycin for 6 weeks.
   CVA:  On asa
   MS:  is calm, but lethargic and disoriented.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2168-11-27**] 02:33 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes